2111-04-13 10:22:00 Physician Attending Progress Note
Chief Complaint: hypoxemia and hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with ?NSIP, on prednisone, h/o AF with ablation, CAD, OSA.
   AF ablation done as OSH on [**4-7**], d/ced on [**4-9**] on anticoagulation.  But
   did have some hemoptysis.  Has had worsening dyspnia, and episodes of
   hemoptosis 1 teasoop to 1 tablespoon.  CTA was negative for PE at OSH.
   Transferred to another OSH.  Cared there for few days with increasing
   oxygen requirement.  Continued hemoptysis.  Diuresed and steroid dose
   increased.  Got moxifloxacin yesterday.  ABG: 7.41/37/73 on 10L FM.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   medrol 80 q8h
   [**Doctor First Name **]
   lisinopril
   repronerol
   bactrim
   asa
   CaCO3
   hep s/q
   Changes to medical and family history:
   CAD with stent in [**2101**]
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-13**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.4
   HR: 80 (75 - 103) bpm
   BP: 122/75(85) {102/57(71) - 133/75(89)} mmHg
   RR: 42 (22 - 42) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  180 mL
   PO:
                  180 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    780 mL
   Urine:
   780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 90%
   ABG: ///21/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : fine basilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   237 K/uL
   202 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.4 mEq/L
   23 mg/dL
   100 mEq/L
   135 mEq/L
   28.8 %
   6.8 K/uL
        [image002.jpg]
                             [**2111-4-13**]  01:30 AM
   WBC
   6.8
   Hct
   28.8
   Plt
   237
   Cr
   0.9
   TropT
   0.13
   Glucose
   202
   Other labs: PT / PTT / INR:20.6/38.4/1.9, CK / CKMB /
   Troponin-T:44//0.13, ALT / AST:104/63, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:91.2 %, Lymph:6.3 %, Mono:1.7 %, Eos:0.6 %, LDH:702
   IU/L, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 .H/O ATRIAL FIBRILLATION (AFIB): HR controlled
 DIABETES MELLITUS (DM), TYPE II
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
   Hypoxemia and hemoptysis:  Significant oxygen requirement.  Unclear
   etiology.  Could be worsening of NSIP.  Recent AFib ablation.  Also
   consider
   pulmonary vein stenosis. Given that he is on anticoagulation, almost
   any pulmonary process can lead to hemoptysis.  Other etologies include
   infectious - PCP, [**Name Initial (NameIs) 5734**].
   Will review OSH CT scan, if images not adequate, will start with CT of
   chest.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-4-12**] 10:33 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2111-04-14 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2111-4-13**] 08:03 AM
 SPUTUM CULTURE - At [**2111-4-13**] 11:30 AM
 TRANSTHORACIC ECHO
 (bubble study) -> Poor quality study with
   inability to rule-out PFO/ASD
   - Desats overnight when masks come off or in periods of obstructive
   apnea
   Review of systems:
   (+)ve: chest heaviness during moments of dyspnea, improving hemoptysis,
   dyspnea,
   (-)ve: nausea, vomiting, constipation, diarrhea
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-4-14**] 12:00 AM
   Other medications:
   Flowsheet Data as of  [**2111-4-14**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.8
C (96.5
   HR: 78 (70 - 82) bpm
   BP: 102/63(72) {90/36(55) - 130/82(89)} mmHg
   RR: 41 (17 - 48) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    660 mL
             PO:
                                                                    660 mL
   TF:
   IVF:
   Total out:
                                                                  1,165 mL
                                                                    350 mL
   Urine:
                                                                  1,165 mL
                                                                    350 mL
   Balance:
                                                                   -505 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: 95% High flow neb
   SpO2: 91%
   Physical Examination
   GEN: NAD, lying in bed
   HEENT: PERRL, EOMI, oral mucosa
   NECK: Supple, large circumference
   PULM: Scattered crackles, no wheezes
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: Obese, BS+, soft, NT, ND
   EXT: No C/C/E
   NEURO: Alert and oriented x 3
   Labs / Radiology
   298 K/uL
   9.6 g/dL
   190 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.2 mEq/L
   25 mg/dL
   100 mEq/L
   135 mEq/L
   25.8 %
   10.2 K/uL
        [image002.jpg]
   CARDIAC ENZYMES:
   [**2111-4-13**] @ 0130 CK: 44, Trop: 0.13, BNP 288
   [**2111-4-13**] @ 1302 CK: 32, Trop: 0.11
   MICRO:
   [**2111-4-13**] Sputum: Insufficient sample due to too many epithelial cells
                             [**2111-4-13**]  01:30 AM
                             [**2111-4-13**]  01:02 PM
                             [**2111-4-14**]  04:30 AM
   WBC
   6.8
   10.2
   Hct
   28.8
   25.8
   Plt
   237
   298
   Cr
   0.9
   0.9
   TropT
   0.13
   0.11
   Glucose
   202
   190
   Other labs: PT / PTT / INR:20.0/28.2/1.9, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:104/63, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:91.2 %, Lymph:6.3 %, Mono:1.7 %, Eos:0.6 %, LDH:702
   IU/L, Ca++:8.8 mg/dL, Mg++:2.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan:
   57M with ILD on prednisone, Afib s/p recent ablation, CAD; transfer
   from OSH with dyspnea, hypoxia, and hemoptysis with high O2
   requirements.
   # Dyspnea/hypoxia:
   Hypoxia relatively stable since admission with patient having 95% high
   flow oxygen requirement. In patient with multiple potential causes of
   dyspnea including ILD/NSIP, potential cardiac causes (CHF, CAD, Afib
   s/p recent ablation - potential for pulmonary vein stenosis, ?history
   of PFO - potential for shunt), PA HTN; also thought to have component
   of chronic dyspnea unrelated to ILD (significant hyperventilatory
   response to exercise). Outside hospital cardiac CT was reviewed here
   and no obvious evidence of pulmonary vein stenosis. Transthoracic
   echocardiography was of poor quality due to body habitus and a PFO or
   ASD could not be conclusively ruled out. Patient ruled out for ACS with
   flat troponins. BNP was within normal limits at 288. As cause of
   hypoxia still unknown, will obtain further imaging. Patient
s likely
   status likely too tenuous for him to be subjected to bronchoscopy,
   which would provide limited additional information.
   - Continue methylprednisilone 80 mg every 8 hours
   - Continue lasix diuresis
   - High resolution chest CT later today
   - Liberate from supplemental oxygen
   # Hemoptysis:
   On coumadin for Afib with recent ablation. Differential for bleeding
   includes bronchitis, airway trauma from intubation, pneumonia
   (including bacterial, PCP, [**Name10 (NameIs) **], or other atypical), neoplasm,
   bronchiectasis, interstitial pneumonia exacerbation. Hemoptysis has
   been improving since admission; HCT has dropped to 25.8.
   - Maintain active type and screen and transfuse for HCT less than 21
   - High resolution chest CT later today
   # Afib:
   s/p recent ablation.  On anticoagulation.  Now in sinus.
   - Continue sotalol
   - Hold therapeutic doses of lovenox for now (last got [**4-12**] PM) as well
   as coumadin.
   - Hold atenolol due to periodic hypotension
   # Coronary artery disease:
   Ruled out for MI.
   - Continue ASA, statin
   - Hold home atenolol and lisinopril due to periodic hypotension
   # Hypertension / Hypotension:
   - Hold home atenolol and lisinopril due to periodic hypotension
   # DM:
   - Insulin sliding scale
   - Add glargine to regimen
   - Hold metformin
   ICU Care
   Nutrition: Regular diabetic, low sodium diet
   Glycemic Control: Humalog insulin sliding scale, adding glargine to
   regimen
   Lines:
   20 Gauge - [**2111-4-12**] 10:33 PM
   Prophylaxis:
   DVT: Heparin subcutaneous, pneumoboots
   Stress ulcer: PPI
   Communication: With patient, wife, and son
   [**Name (NI) 156**] status: FULL
   Disposition: ICU while limited by hypoxia

2111-04-14 13:24:00 Physician Attending Progress Note
Chief Complaint: hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with hemoptysis post-AF ablation.  h/o of ILD, on
   steroids.    Hemoptysis has improved, still having a little blood
   tinged sputum.
   24 Hour Events:
 EKG - At [**2111-4-13**] 08:03 AM
 SPUTUM CULTURE - At [**2111-4-13**] 11:30 AM
 TRANSTHORACIC ECHO - At [**2111-4-13**] 11:40 AM
   bubble study
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-4-14**] 12:00 AM
   Other medications:
   medrol 80mg q8
   atenolol
   lipitor
   fexofenidine
   lisinopril
   protonix
   tamsulosin
   bactrim
   asa
   calcium carbonate
   vitamin D
   vitamin B12
   MVI
   paxil
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-14**] 01:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.8
C (96.4
   HR: 72 (64 - 81) bpm
   BP: 83/49(57) {80/36(55) - 116/82(89)} mmHg
   RR: 39 (17 - 48) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    660 mL
                                                                    240 mL
   PO:
                                                                    660 mL
                                                                    240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,165 mL
                                                                    650 mL
   Urine:
                                                                  1,165 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -505 mL
                                                                   -410 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   298 K/uL
   190 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.2 mEq/L
   25 mg/dL
   100 mEq/L
   135 mEq/L
   25.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2111-4-13**]  01:30 AM
                             [**2111-4-13**]  01:02 PM
                             [**2111-4-14**]  04:30 AM
   WBC
   6.8
   10.2
   Hct
   28.8
   25.8
   Plt
   237
   298
   Cr
   0.9
   0.9
   TropT
   0.13
   0.11
   Glucose
   202
   190
   Other labs: PT / PTT / INR:20.0/28.2/1.9, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:104/63, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:91.2 %, Lymph:6.3 %, Mono:1.7 %, Eos:0.6 %, LDH:702
   IU/L, Ca++:8.8 mg/dL, Mg++:2.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Severe hypoxemia:  Unclear cause.  CTA from OSH reviewed - no evidence
   of pulmonary vein stenosis, or PE.  Will get dedicated lung CT scan to
   evaluate the
   lung parenchyma.
   underlying NSIP being treated with steroids.
   HTN:  low BP, so cut back on antihypertensives
   DM II:  improve blood sugar control with increased scale and adding
   glargin
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2111-4-13**] 09:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2111-04-15 07:25:00 Physician Resident Progress Note
Chief Complaint: Hypoxia, hemoptysis
   24 Hour Events:
   - CT chest with marked worsening of ground glass opacities bilaterally
   - Received CPAP overnight due to frequent oxygen desaturations
   - Adjusted humalog insulin sliding scale
   - All home anti-hypertensives (atenolol, lisinopril, tamsulosin)
   discontinued yesterday due to transient hypotension to systolics of 70
   in the AM
   ROS:
   Patient reports that since coming off of CPAP this AM has struggled
   with increased cough and hemoptysis. Has ongoing bilateral shoulder
   tightness associated with periods of dyspnea. Denies nausea or
   vomiting.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-4-14**] 11:55 PM
   Flowsheet Data as of  [**2111-4-15**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 73 (64 - 83) bpm
   BP: 119/65(78) {73/32(45) - 120/78(86)} mmHg
   RR: 21 (21 - 44) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    680 mL
                  PO:
                                                                    680 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,330 mL
                                                                    350 mL
   Urine:
                                                                  1,330 mL
                                                                    350 mL
   Balance:
                                                                   -650 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: High flow neb mask with 5L nasal cannula
   Physical Examination
   GEN: NAD, lying in bed
   HEENT: PERRL, EOMI, oral mucosa
   NECK: Supple, large circumference
   PULM: Scattered fine crackles, left > right coarse crackles at bases,
   tachypnea
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: Obese, BS+, soft, NT, ND
   EXT: No C/C/E
   NEURO: Alert and oriented x 3
   Labs / Radiology
   338 K/uL
   9.6 g/dL
   193 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.4 mEq/L
   26 mg/dL
   101 mEq/L
   137 mEq/L
   28.0 %
   11.5 K/uL
        [image002.jpg]
                             [**2111-4-13**]  01:30 AM
                             [**2111-4-13**]  01:02 PM
                             [**2111-4-14**]  04:30 AM
                             [**2111-4-15**]  03:39 AM
                             [**2111-4-15**]  03:47 AM
                             [**2111-4-15**]  05:50 AM
   WBC
   6.8
   10.2
   11.5
   Hct
   28.8
   25.8
   28.0
   Plt
   237
   298
   338
   Cr
   0.9
   0.9
   1.0
   TropT
   0.13
   0.11
   TCO2
   28
   28
   Glucose
   [**Telephone/Fax (3) 5762**]
   Other labs: PT / PTT / INR:17.6/27.2/1.6, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:104/63, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:91.2 %, Lymph:6.3 %, Mono:1.7 %, Eos:0.6 %, LDH:702
   IU/L, Ca++:8.9 mg/dL, Mg++:2.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan:
   57M with ILD on prednisone, Afib s/p recent ablation, CAD; transfer
   from OSH with dyspnea, hypoxia, and hemoptysis with high O2
   requirements.
   # Dyspnea/hypoxia:
   Hypoxia relatively stable since admission with patient having 95% high
   flow oxygen requirement. In patient with multiple potential causes of
   dyspnea including ILD/NSIP, potential cardiac causes (CHF, CAD, Afib
   s/p recent ablation - potential for pulmonary vein stenosis, ?history
   of PFO - potential for shunt), PA HTN; also thought to have component
   of chronic dyspnea unrelated to ILD (significant hyperventilatory
   response to exercise). Outside hospital cardiac CT was reviewed here
   and no obvious evidence of pulmonary vein stenosis. Transthoracic
   echocardiography was of poor quality due to body habitus and a PFO or
   ASD could not be conclusively ruled out. Will likely obtain cardiology
   consult to assist in ruling out sequelae of recen AFIB ablation as
   cause of current presentation given temporal relationship. Patient
   ruled out for ACS with flat troponins. BNP was within normal limits at
   288. High res CT chest obtained yesterday revealed marked increase in
   bilateral ground glass opacities. Unknown cause for these opacities.
   Patient
s likely status likely too tenuous for him to be subjected to
   bronchoscopy without need for intubation prior.
   - Continue methylprednisilone 80 mg every 8 hours
   - Continue lasix diuresis
   - Cardiology consult
   - Liberate from supplemental oxygen as able
   # Hemoptysis:
   On coumadin at presentation indicated for Afib with recent ablation.
   Differential for bleeding includes bronchitis, airway trauma from
   intubation, pneumonia (including bacterial, PCP, [**Name10 (NameIs) **], or other
   atypical), neoplasm, pulmonary vein stenosis, bronchiectasis,
   interstitial pneumonia exacerbation. Hemoptysis has been improving
   since admission; HCT stable at 28.0 without intervention.
   - Maintain active type and screen and transfuse for HCT less than 21
   # Afib:
   s/p recent ablation.  Holding anticoagulation.  Now in sinus.
   - Continue sotalol
   - Hold atenolol due to periodic hypotension
   # Coronary artery disease:
   Ruled out for MI.
   - Continue ASA, statin
   - Hold home atenolol and lisinopril due to periodic hypotension
   # Hypertension / Hypotension:
   - Hold home atenolol and lisinopril due to periodic hypotension
   # DM:
   - Insulin sliding scale with glargine
   - Hold metformin
   ICU Care
   Nutrition: Regular diabetic, low sodium diet
   Glycemic Control: Humalog insulin sliding scale, adding glargine to
   regimen
   Lines:
   20 Gauge - [**2111-4-12**] 10:33 PM
   Prophylaxis:
   DVT: Heparin subcutaneous, pneumoboots
   Stress ulcer: PPI
   Communication: With patient, wife, and son
   [**Name (NI) 156**] status: FULL
   Disposition: ICU while limited by hypoxia

2111-04-15 11:09:00 Physician Attending Progress Note
Chief Complaint: hemoptysis and hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with NSIP, presented with hypoxemia and hemoptysis following
   an AF ablation.  Overnight worsened with increased hypoxemia and
   increasing hemoptysis
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2111-4-15**] 03:15 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-4-15**] 08:00 AM
   Other medications:
   medrol 80 q8h
   SSI
   lipitor
   colchicine
   fexofenidine
   protonix
   ropinurol
   sotalol
   bactrim
   asa
   CaCO
   vitamin D
   vit B12
   MVI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-15**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.4
C (95.7
   HR: 77 (68 - 83) bpm
   BP: 104/73(78) {73/32(45) - 123/76(86)} mmHg
   RR: 25 (21 - 44) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                    680 mL
                                                                     34 mL
   PO:
                                                                    680 mL
                                                                     20 mL
   TF:
   IVF:
   14 mL
   Blood products:
   Total out:
                                                                  1,330 mL
                                                                    825 mL
   Urine:
                                                                  1,330 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -650 mL
                                                                   -791 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 960 (818 - 1,001) mL
   PS : 10 cmH2O
   RR (Spontaneous): 43
   PEEP: 8 cmH2O
   FiO2: 98%
   PIP: 20 cmH2O
   SpO2: 88%
   ABG: 7.45/39/76.[**Numeric Identifier 299**]/26/2
   Ve: 15.2 L/min
   PaO2 / FiO2: 95
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): time 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.6 g/dL
   338 K/uL
   193 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.4 mEq/L
   26 mg/dL
   101 mEq/L
   137 mEq/L
   28.0 %
   11.5 K/uL
        [image002.jpg]
                             [**2111-4-13**]  01:30 AM
                             [**2111-4-13**]  01:02 PM
                             [**2111-4-14**]  04:30 AM
                             [**2111-4-15**]  03:39 AM
                             [**2111-4-15**]  03:47 AM
                             [**2111-4-15**]  05:50 AM
   WBC
   6.8
   10.2
   11.5
   Hct
   28.8
   25.8
   28.0
   Plt
   237
   298
   338
   Cr
   0.9
   0.9
   1.0
   TropT
   0.13
   0.11
   TCO2
   28
   28
   Glucose
   [**Telephone/Fax (3) 5762**]
   Other labs: PT / PTT / INR:17.6/27.2/1.6, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:104/63, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:91.2 %, Lymph:6.3 %, Mono:1.7 %, Eos:0.6 %, LDH:702
   IU/L, Ca++:8.9 mg/dL, Mg++:2.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Hypoxemic respiratory failure:  Diffuse lung infiltrates and worsening
   hemoptysis.  Unclear if this is still related to prior AF ablation and
   clot has reappeared in pulmonary
   vein due to holding of anticoagulation, or this is a primary lung
   process related to his ILD
   will discuss with cardiology and decide re: potential intubation and
   bronch/TEE vs CTA.
   HTN
   AFib
   diastolic HF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-4-15**] 09:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2111-04-16 07:26:00 Physician Resident Progress Note
Chief Complaint: Hypoxia, hemoptysis
   24 Hour Events:
   - Cardiology consult felt that pulmonary vein stenosis unlikely after
   imaging pre and post ablation was reviewed with radiology, felt that
   pulmonary contusion as sequelae of ablation was possible explanation
   - Patient began having tachypnea in the evening once BiPAP mask
   applied, which progressed to tachypnea to the 50s with oxygen desats
   - Urgent intubation after discussion with patient and his wife
   - Required high level of sedation and airway pressure release
   ventilation (APRV) mode prior to getting oxygen sats from mid-80s post
   intubation back to 90
   - Received A-line
   - Received right IJ central venous catheter
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-4-15**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-16**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.6
C (96
   HR: 71 (65 - 94) bpm
   BP: 102/62(76) {102/61(75) - 116/68(84)} mmHg
   RR: 24 (16 - 43) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                    380 mL
                                                                  1,191 mL
   PO:
                                                                    340 mL
             TF:
   IVF:
                                                                     40 mL
                                                                  1,191 mL
   Blood products:
   Total out:
                                                                  1,910 mL
                                                                    150 mL
   Urine:
                                                                  1,910 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,530 mL
                                                                  1,041 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 667 (667 - 1,370) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 24
   PEEP: 14 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 41 cmH2O
   SpO2: 99%
   ABG: 7.43/37/238/23/1
   Ve: 15.4 L/min
   PaO2 / FiO2: 298
   Physical Examination
   GEN: NAD, lying in bed
   HEENT: PERRL, EOMI, oral mucosa
   NECK: Supple, large circumference
   PULM: Scattered fine crackles, left > right coarse crackles at bases,
   tachypnea
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: Obese, BS+, soft, NT, ND
   EXT: No C/C/E
   NEURO: Alert and oriented x 3
   Labs / Radiology
   318 K/uL
   8.6 g/dL
   200 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.7 mEq/L
   25 mg/dL
   105 mEq/L
   138 mEq/L
   25.3 %
   9.8 K/uL
        [image002.jpg]
                             [**2111-4-14**]  04:30 AM
                             [**2111-4-15**]  03:39 AM
                             [**2111-4-15**]  03:47 AM
                             [**2111-4-15**]  05:50 AM
                             [**2111-4-15**]  04:42 PM
                             [**2111-4-16**]  01:59 AM
                             [**2111-4-16**]  02:55 AM
                             [**2111-4-16**]  04:13 AM
                             [**2111-4-16**]  04:28 AM
                             [**2111-4-16**]  06:54 AM
   WBC
   10.2
   11.5
   9.8
   Hct
   25.8
   28.0
   25.3
   Plt
   298
   338
   318
   Cr
   0.9
   1.0
   0.8
   TCO2
   28
   28
   27
   28
   25
   26
   25
   Glucose
   190
   193
   200
   Other labs: PT / PTT / INR:16.1/22.7/1.4, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:104/63, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:91.3 %, Lymph:6.4 %, Mono:2.1 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, LDH:702 IU/L, Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan:
   57M with ILD on prednisone, Afib s/p recent ablation, CAD; transfer
   from OSH with dyspnea, hypoxia, and hemoptysis with high O2
   requirements.
   # Dyspnea/hypoxia:
   Hypoxia relatively stable since admission with patient having 95% high
   flow oxygen requirement. In patient with multiple potential causes of
   dyspnea including ILD/NSIP, potential cardiac causes (CHF, CAD, Afib
   s/p recent ablation - potential for pulmonary vein stenosis, ?history
   of PFO - potential for shunt), PA HTN; also thought to have component
   of chronic dyspnea unrelated to ILD (significant hyperventilatory
   response to exercise). Outside hospital cardiac CT was reviewed here
   and no obvious evidence of pulmonary vein stenosis. Transthoracic
   echocardiography was of poor quality due to body habitus and a PFO or
   ASD could not be conclusively ruled out. Will likely obtain cardiology
   consult to assist in ruling out sequelae of recen AFIB ablation as
   cause of current presentation given temporal relationship. Patient
   ruled out for ACS with flat troponins. BNP was within normal limits at
   288. High res CT chest obtained yesterday revealed marked increase in
   bilateral ground glass opacities. Unknown cause for these opacities.
   Patient
s likely status likely too tenuous for him to be subjected to
   bronchoscopy without need for intubation prior.
   - Continue methylprednisilone 80 mg every 8 hours
   - Continue lasix diuresis
   - Cardiology consult
   - Liberate from supplemental oxygen as able
   # Hemoptysis:
   On coumadin at presentation indicated for Afib with recent ablation.
   Differential for bleeding includes bronchitis, airway trauma from
   intubation, pneumonia (including bacterial, PCP, [**Name10 (NameIs) **], or other
   atypical), neoplasm, pulmonary vein stenosis, bronchiectasis,
   interstitial pneumonia exacerbation. Hemoptysis has been improving
   since admission; HCT stable at 28.0 without intervention.
   - Maintain active type and screen and transfuse for HCT less than 21
   # Afib:
   s/p recent ablation.  Holding anticoagulation.  Now in sinus.
   - Continue sotalol
   - Hold atenolol due to periodic hypotension
   # Coronary artery disease:
   Ruled out for MI.
   - Continue ASA, statin
   - Hold home atenolol and lisinopril due to periodic hypotension
   # Hypertension / Hypotension:
   - Hold home atenolol and lisinopril due to periodic hypotension
   # DM:
   - Insulin sliding scale with glargine
   - Hold metformin
   ICU Care
   Nutrition: Regular diabetic, low sodium diet
   Glycemic Control: Humalog insulin sliding scale, adding glargine to
   regimen
   Lines:
   20 Gauge - [**2111-4-12**] 10:33 PM
   Prophylaxis:
   DVT: Heparin subcutaneous, pneumoboots
   Stress ulcer: PPI
   Communication: With patient, wife, and son
   [**Name (NI) 156**] status: FULL
   Disposition: ICU while limited by hypoxia

2111-04-16 09:31:00 Physician Attending Progress Note
Chief Complaint: hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with ILD, presents with hypoxemic respiratory failure.
   Overnight began having worsening desaturation, tachypneic.  Was
   intubated.    But was very hypoxemic.  Was changed to APRV with
   improvement oxygenation.
   24 Hour Events:
 URINE CULTURE - At [**2111-4-15**] 04:04 PM
 INVASIVE VENTILATION - START [**2111-4-16**] 01:15 AM
 ARTERIAL LINE - START [**2111-4-16**] 01:45 AM
 MULTI LUMEN - START [**2111-4-16**] 05:45 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-4-15**] 04:00 PM
   Other medications:
   medrol
   lipitor
   colchicine
   fexofenidine
   protonix
   ropinurol
   sotalol
   CaCO3
   Bactrim
   Vitamin D, B12, MVI
   paxil
   hep s/q
   insulin
   glargine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-16**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.6
C (96
   HR: 71 (65 - 94) bpm
   BP: 102/62(76) {102/61(75) - 116/68(84)} mmHg
   RR: 24 (16 - 43) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                    380 mL
                                                                  1,239 mL
   PO:
                                                                    340 mL
             TF:
   IVF:
                                                                     40 mL
                                                                  1,239 mL
   Blood products:
   Total out:
                                                                  1,910 mL
                                                                    150 mL
   Urine:
                                                                  1,910 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,530 mL
                                                                  1,089 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 667 (667 - 1,370) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 24
   PEEP: 14 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 41 cmH2O
   SpO2: 99%
   ABG: 7.43/37/238/23/1
   Ve: 14.9 L/min
   PaO2 / FiO2: 397
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   318 K/uL
   200 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.7 mEq/L
   25 mg/dL
   105 mEq/L
   138 mEq/L
   25.3 %
   9.8 K/uL
        [image002.jpg]
                             [**2111-4-14**]  04:30 AM
                             [**2111-4-15**]  03:39 AM
                             [**2111-4-15**]  03:47 AM
                             [**2111-4-15**]  05:50 AM
                             [**2111-4-15**]  04:42 PM
                             [**2111-4-16**]  01:59 AM
                             [**2111-4-16**]  02:55 AM
                             [**2111-4-16**]  04:13 AM
                             [**2111-4-16**]  04:28 AM
                             [**2111-4-16**]  06:54 AM
   WBC
   10.2
   11.5
   9.8
   Hct
   25.8
   28.0
   25.3
   Plt
   298
   338
   318
   Cr
   0.9
   1.0
   0.8
   TCO2
   28
   28
   27
   28
   25
   26
   25
   Glucose
   190
   193
   200
   Other labs: PT / PTT / INR:16.1/22.7/1.4, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:104/63, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:91.3 %, Lymph:6.4 %, Mono:2.1 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, LDH:702 IU/L, Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   Hypoxemic respiratory failure:  responded very well to increased PEEP,
   which suggests that this is not a fibrotic process.   Will get TEE
   today to r/o [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] from
   procedure, and if negative will do BAL.  Would also benefit from
   esophageal balloon to guide vent management
   Afib:  On sotalol, off anticoag
   TFs after TEE
   DM II:  Humolog insulin SS, uptitrate glargine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-4-15**] 09:10 AM
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Reviewed TEE results which showed no pulmonary vein stenosis and no [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 1532**].   Given the BAL showed bloody return and he has been peep
   responsive on the vent, this is less likely AIP and more likely an
   alveolar hemorrhage syndrome.  Discussed this with family and will
   treat with pulse dose steroids 1gm/day for three days.
   CC 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2111-4-16**] 15:52 ------

2111-04-17 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Had episodes of agitation and thrashing requiring extra sedation.
   - Came down on the high pressure and increased high time, which brought
   RR down to 17. FiO2 at 50.
   - Was thrashing too much to get CXR this am but already had one for the
   OGT placement last night
 TRANS ESOPHAGEAL ECHO - At [**2111-4-16**] 10:00 AM - negative
 BRONCHOSCOPY - At [**2111-4-16**] 02:00 PM - showed alveoalr hemorrhage
 BAL FLUID CULTURE - At [**2111-4-16**] 02:00 PM
 URINE CULTURE - At [**2111-4-16**] 04:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 225 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-4-17**] 12:39 AM
   Fentanyl - [**2111-4-17**] 02:16 AM
   Midazolam (Versed) - [**2111-4-17**] 02:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-17**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.9
C (96.7
   HR: 65 (60 - 72) bpm
   BP: 125/64(84) {88/48(61) - 125/70(88)} mmHg
   RR: 17 (17 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 15 (10 - 15)mmHg
   Bladder pressure: 7 (7 - 7) mmHg
   Total In:
                                                                  2,074 mL
                                                                    516 mL
   PO:
   TF:
                                                                    150 mL
   IVF:
                                                                  1,834 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                  1,085 mL
                                                                    380 mL
   Urine:
                                                                  1,085 mL
                                                                    355 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    989 mL
                                                                    136 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   RR (Spontaneous): 1
   PEEP: 20 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   SpO2: 98%
   ABG: 7.45/35/117/23/1
   Ve: 10.4 L/min
   PaO2 / FiO2: 234
   Physical Examination
   GEN: Intubated, sedated
   HEENT: ET tube and OG tube in place
   NECK: Supple, large circumference, right IJ in place
   PULM: Scattered fine crackles, breath sounds largely obscured by
   ventilator sounds
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: Obese, BS+, soft, non-tympanitic
   EXT: No C/C/E
   NEURO: Alert and oriented x 3
   Labs / Radiology
   257 K/uL
   8.8 g/dL
   265 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   29 mg/dL
   107 mEq/L
   138 mEq/L
   25.9 %
   6.1 K/uL
         [image002.jpg]
                             [**2111-4-16**]  10:04 AM
                             [**2111-4-16**]  04:44 PM
                             [**2111-4-16**]  08:48 PM
                             [**2111-4-16**]  10:09 PM
                             [**2111-4-17**]  12:41 AM
                             [**2111-4-17**]  02:07 AM
                             [**2111-4-17**]  03:24 AM
                             [**2111-4-17**]  03:37 AM
                             [**2111-4-17**]  05:26 AM
                             [**2111-4-17**]  06:26 AM
   WBC
   6.1
   Hct
   25.9
   Plt
   257
   Cr
   0.8
   TCO2
   24
   25
   27
   26
   27
   24
   25
   26
   25
   Glucose
   265
   Other labs: PT / PTT / INR:16.2/24.3/1.5, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:104/63, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:91.3 %, Lymph:6.4 %, Mono:2.1 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, LDH:702 IU/L, Ca++:8.2 mg/dL, Mg++:2.8 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   57M with ILD on prednisone, Afib s/p recent ablation, CAD; transfer
   from OSH with dyspnea, hypoxia, and hemoptysis with high O2
   requirements.
   # Dyspnea/hypoxia:
   Patient had acute change in respiratory status on evening of [**4-15**] when
   he had progressive hypoxia and tachypnea leading to an emergent
   intubation. Difficulty with oxygenation with standard vent modes led to
   patient being placed on APRV mode, with good response in oxygenation.
   Now stable with oxygen sats in the upper 90s. Still with unknown cause
   of hypoxia and hemoptysis overall. Caridology consult assisted in
   ruling out pulmonary vein stenosis as cause of acute hemoptysis and
   hypoxia following atrial-fib ablation. TEE was negative for pulmonary
   vein stenosis. Bronch yesterday showed alveolar hemorrhage which could
   signify some vasculitis so high dose steroids was started.
   - ABGs today with vent changes to assess for ventilatory status, plan
   to switch to regular settings CMV vs PSV
   - f/u sputum sample from endotracheal tube
   - Continue methylprednisilone 1000 mg every 24 hours x3 days (though
   Sat) then switch to 60mg prednisone
   - Liberate from vent as possible
   - maintain even to slightly negative I/O
   - check ESR, [**Doctor First Name **]
   # Hemoptysis:
   On coumadin at presentation indicated for Afib with recent ablation.
   Differential for bleeding includes bronchitis, airway trauma from
   intubation, pneumonia (including bacterial, PCP, [**Name10 (NameIs) **], or other
   atypical), neoplasm, pulmonary vein stenosis, bronchiectasis,
   interstitial pneumonia exacerbation. Hemoptysis has been improving
   since admission; HCT has been variable, at 25.9 today.
   - Continue to trend HCT
   - Maintain active type and screen and transfuse for HCT less than 21
   - Discontinued aspirin
   # Afib:
   s/p recent ablation.  Holding anticoagulation.  Now in sinus.
   - Continue sotalol
   - Hold atenolol due to periodic hypotension
   # Coronary artery disease:
   Ruled out for MI.
   - Continue statin
   - Hold home aspirin during period of hemoptysis
   - Hold home atenolol and lisinopril due to periodic hypotension
   # Hypertension / Hypotension:
   - Hold home atenolol and lisinopril due to periodic hypotension
   # DM: glucose has gone up with the steroid on top of diabetes:
   - insulin drip for now then after steroids are weaned can return to
   insulin sliding scale with glargine
   - Hold metformin
   ICU Care
   Nutrition:
   Ensure (Full) - [**2111-4-17**] 12:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-4-15**] 09:10 AM
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care for now

2111-04-17 10:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man presents with hemoptysis and b/l infiltrates.  Bronch
   yesterday with bloody fluid and TEE negative for clots, so started on
   high dose steroids
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2111-4-16**] 10:00 AM
 BRONCHOSCOPY - At [**2111-4-16**] 02:00 PM
 BAL FLUID CULTURE - At [**2111-4-16**] 02:00 PM
 URINE CULTURE - At [**2111-4-16**] 04:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 225 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Fentanyl - [**2111-4-17**] 02:16 AM
   Midazolam (Versed) - [**2111-4-17**] 02:17 AM
   Heparin Sodium (Prophylaxis) - [**2111-4-17**] 08:10 AM
   Other medications:
   atorvastatin
   vequip
   sotalol
   tums
   vit D
   paxil
   medrol 1gm a day
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-17**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.9
C (96.6
   HR: 62 (60 - 72) bpm
   BP: 134/71(90) {88/48(61) - 134/71(90)} mmHg
   RR: 15 (15 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 15 (10 - 15)mmHg
   Bladder pressure: 7 (7 - 7) mmHg
   Total In:
                                                                  2,074 mL
                                                                    827 mL
   PO:
   TF:
                                                                    233 mL
   IVF:
                                                                  1,834 mL
                                                                    344 mL
   Blood products:
   Total out:
                                                                  1,085 mL
                                                                    475 mL
   Urine:
                                                                  1,085 mL
                                                                    450 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    989 mL
                                                                    352 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   RR (Spontaneous): 3
   PEEP: 20 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   SpO2: 98%
   ABG: 7.45/35/117/23/1
   Ve: 10 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   257 K/uL
   265 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   29 mg/dL
   107 mEq/L
   138 mEq/L
   25.9 %
   6.1 K/uL
        [image002.jpg]
                             [**2111-4-16**]  10:04 AM
                             [**2111-4-16**]  04:44 PM
                             [**2111-4-16**]  08:48 PM
                             [**2111-4-16**]  10:09 PM
                             [**2111-4-17**]  12:41 AM
                             [**2111-4-17**]  02:07 AM
                             [**2111-4-17**]  03:24 AM
                             [**2111-4-17**]  03:37 AM
                             [**2111-4-17**]  05:26 AM
                             [**2111-4-17**]  06:26 AM
   WBC
   6.1
   Hct
   25.9
   Plt
   257
   Cr
   0.8
   TCO2
   24
   25
   27
   26
   27
   24
   25
   26
   25
   Glucose
   265
   Other labs: PT / PTT / INR:16.2/24.3/1.5, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:104/63, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:91.3 %, Lymph:6.4 %, Mono:2.1 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, LDH:702 IU/L, Ca++:8.2 mg/dL, Mg++:2.8 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   Respiratory failure:  b/l infltrates with bloody return on BAL
   potentially consistent with alveolar hemorrhage syndrome.  On pulse
   dose steroids
   AFib:  Has been stable.  Continue sotalol
   Anemia:  Hct stable
   ICU Care
   Nutrition:
   Ensure (Full) - [**2111-4-17**] 12:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-4-15**] 09:10 AM
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2111-04-18 07:42:00 Physician Resident Progress Note
Chief Complaint: Hypoxemic respiratory failure, hemoptysis
   24 Hour Events:
   - Solumedrol 1gm, last dose 4/18, then pred 60mg qd
   - CRP 24
   - Failed SBT
   - sent [**Doctor First Name **], pending
   - [**4-16**] BAL neg legionell, neg PCP, [**Name10 (NameIs) **] oral flora, neg fungus, neg AFB
   ROS: Unable to obtain due to sedation.
   Allergies:
   No Known Drug Allergies
   Infusions:
   Insulin - Regular - 10 units/hour
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 9 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-4-17**] 03:53 PM
   Flowsheet Data as of  [**2111-4-18**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 77 (62 - 82) bpm
   BP: 149/78(101) {120/60(80) - 149/78(101)} mmHg
   RR: 7 (7 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 17 (15 - 17)mmHg
             Total In:
                                                                  2,583 mL
                                                                  1,184 mL
   PO:
             TF:
                                                                    953 mL
                                                                    547 mL
   IVF:
                                                                  1,080 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    250 mL
   Urine:
                                                                  1,165 mL
                                                                    250 mL
   NG:
                                                                     25 mL
   Balance:
                                                                  1,393 mL
                                                                    934 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 29 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.41/40/78.[**Numeric Identifier 7**]/24/0
   Ve: 12.3 L/min
   PaO2 / FiO2: 158
   Physical Examination
   GEN: Intubated, sedated
   HEENT: ET tube and OG tube in place
   NECK: Supple, large circumference, right IJ in place
   PULM: Scattered fine crackles
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: Obese, BS+, soft, non-tympanitic
   EXT: No C/C/E
   NEURO: Sedated, withdraws to pain
   Labs / Radiology
   295 K/uL
   8.7 g/dL
   110 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.7 mEq/L
   38 mg/dL
   108 mEq/L
   140 mEq/L
   25.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2111-4-17**]  12:41 AM
                             [**2111-4-17**]  02:07 AM
                             [**2111-4-17**]  03:24 AM
                             [**2111-4-17**]  03:37 AM
                             [**2111-4-17**]  05:26 AM
                             [**2111-4-17**]  06:26 AM
                             [**2111-4-17**]  10:23 AM
                             [**2111-4-17**]  12:01 PM
                             [**2111-4-18**]  03:59 AM
                             [**2111-4-18**]  04:24 AM
   WBC
   6.1
   10.7
   Hct
   25.9
   25.9
   Plt
   257
   295
   Cr
   0.8
   1.0
   TCO2
   27
   24
   25
   26
   25
   24
   24
   26
   Glucose
   265
   110
   Other labs: PT / PTT / INR:14.1/22.1/1.2, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:104/63, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:91.3 %, Lymph:6.4 %, Mono:2.1 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, LDH:702 IU/L, Ca++:8.8 mg/dL, Mg++:3.2 mg/dL, PO4:3.8
   mg/dL
   MICRO:
[**2111-4-16**] 2:21 pm BRONCHOALVEOLAR LAVAGE
- RESPIRATORY CULTURE (Final [**2111-4-18**]): OROPHARYNGEAL FLORA
- LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
- Immunoflourescent test for PCP (Final [**2111-4-17**]):    NEGATIVE for Pneumocystis
jirovecii (carinii)
- FUNGAL CULTURE (Preliminary):  NO FUNGUS ISOLATED.
- ACID FAST SMEAR (Final [**2111-4-17**]):   NO ACID FAST BACILLI SEEN ON CONCENTRATED
SMEAR.
- ACID FAST CULTURE (Preliminary):  NGTD
- VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary): NGTD
   [**2111-4-16**] 2:21 pm Rapid Respiratory Viral Screen & Culture: INSUFFICIENT
   SAMPLE FOR TEST
   Assessment and Plan
   57M with ILD on prednisone, Afib s/p recent ablation, CAD; transfer
   from OSH with dyspnea, hypoxia, and hemoptysis.
   # Hypoxemic respiratory failure / hemoptysis:
   Likely inter-related processes. Patient had acute change in respiratory
   status on evening of [**4-15**] when he had progressive hypoxia and tachypnea
   leading to an emergent intubation. Difficulty with oxygenation with
   standard vent modes led to patient being placed on APRV mode, with good
   response in oxygenation. Patient switched to CMV on [**4-17**] with PEEP at
   18 and FiO2 titrated down to 50%. Now stable with oxygen sats in the
   upper 90s. Still with unknown cause of hypoxia and hemoptysis overall.
   Caridology consult assisted in ruling out pulmonary vein stenosis as
   cause of acute hemoptysis and hypoxia following atrial-fib ablation.
   TEE was negative for pulmonary vein stenosis. Bronchoscopy on [**4-16**] was
   consistent with diffuse alveolar hemorrhage. Due to concern for
   vasculitis, pulse dose steroids were initiated. CRP was elevated at 24.
   Hemoptysis has been improving since admission; HCT has been stable at
   26 in last two days. BAL without positive culture data at this time.
   Viral screen could not be run due to insufficient sample.
   - Continue methylprednisilone 1000 mg today and then switch to 60mg
   prednisone tomorrow
   - Liberate from vent as possible
   - Maintain even to slightly negative I/O
   - Follow-up [**Doctor First Name **]
   - Follow-up culture data
   - Redraw viral respiratory screen
   - Continue to trend HCT
   - Maintain active type and screen and transfuse for HCT less than 21
   - Hold aspirin and warfarin
   # Afib:
   s/p recent ablation.  Now in sinus rhythm.
   - Continue sotalol
   - Hold warfarin
   - Hold atenolol due to periodic hypotension
   # Coronary artery disease:
   Ruled out for MI at presentation.
   - Continue statin
   - Hold home aspirin until complete resolution of hemoptysis
   - Hold home atenolol and lisinopril due to periodic hypotension
   # Hypertension / Hypotension:
   - Hold home atenolol, lisinopril, tamsulosin due to periodic
   hypotension
   # DM:
   Glucose has gone up with the steroid on top of diabetes.
   - Insulin drip for now then after steroids are weaned can return to
   insulin sliding scale with glargine
   - Hold metformin
   ICU Care
   Nutrition:
   Boost Glucose Control - [**2111-4-17**] 12:00 AM 30 mL/hour
   Glycemic Control:  Insulin drip
   Lines:
   20 Gauge - [**2111-4-15**] 09:10 AM
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
   DVT: Heparin drip systemic anticoagulation
   Stress ulcer: PPI
   VAP:  Oral care and HOB elevation
   Communication:  With patient
s wife and two sons
   [**Name (NI) 156**] status: FULL
   Disposition: ICU care for now

2111-04-18 11:40:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Hypoxemic respiratory failure, hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -FOB w/ BAL yesterday
   - Pulse does steroids started secondary to concern for DAH
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 9 mg/hour
   Insulin - Regular - 11 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-4-17**] 03:53 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-18**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.9
C (96.7
   HR: 70 (70 - 82) bpm
   BP: 133/71(90) {120/60(80) - 149/78(101)} mmHg
   RR: 17 (7 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 17 (15 - 17)mmHg
   Total In:
                                                                  2,583 mL
                                                                  1,840 mL
   PO:
   TF:
                                                                    953 mL
                                                                    885 mL
   IVF:
                                                                  1,080 mL
                                                                    505 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    390 mL
   Urine:
                                                                  1,165 mL
                                                                    390 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                  1,393 mL
                                                                  1,450 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 30 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/40/78.[**Numeric Identifier 7**]/24/0
   Ve: 13 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   295 K/uL
   110 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.7 mEq/L
   38 mg/dL
   108 mEq/L
   140 mEq/L
   25.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2111-4-17**]  12:41 AM
                             [**2111-4-17**]  02:07 AM
                             [**2111-4-17**]  03:24 AM
                             [**2111-4-17**]  03:37 AM
                             [**2111-4-17**]  05:26 AM
                             [**2111-4-17**]  06:26 AM
                             [**2111-4-17**]  10:23 AM
                             [**2111-4-17**]  12:01 PM
                             [**2111-4-18**]  03:59 AM
                             [**2111-4-18**]  04:24 AM
   WBC
   6.1
   10.7
   Hct
   25.9
   25.9
   Plt
   257
   295
   Cr
   0.8
   1.0
   TCO2
   27
   24
   25
   26
   25
   24
   24
   26
   Glucose
   265
   110
   Other labs: PT / PTT / INR:14.1/22.1/1.2, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:104/63, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:91.3 %, Lymph:6.4 %, Mono:2.1 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, LDH:702 IU/L, Ca++:8.8 mg/dL, Mg++:3.2 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   Hypoxemic respiratory failure:
   -b/l infltrates with bloody return on BAL potentially consistent with
   alveolar hemorrhage syndrome
   -pulse dose steroids initiated
   -PSV trial
   AFib:
   -Continue sotalol
   Hemoptysis
   -less noted on suctioning
   -airways clear of lesions
   -DAH could be etiology
   -off ASA, coumadin
    Anemia:
   -Hct stable
   ILD:
   -not biopsy proven - NSIP current leading dx
   -evidence of outflow obstruction not c/w pure ILD picture.  ? other
   obstructive proces in play
   DAH:
   -based on hemoptysis, BAL results
   -trial pulse steroids
   DM:
   -insulin drip
   Hemodyn:
   -stable
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Ensure (Full) - [**2111-4-18**] 06:44 AM 75 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2111-4-15**] 09:10 AM
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill

2111-04-19 07:36:00 Physician Resident Progress Note
Chief Complaint: Hemoptysis, hypoxia
   24 Hour Events:
   - Had last dose of solumedrol at 1 gram
   - No change in vent settings overnight
   - Family updated on progress
   ROS:
   Unable to obtain due to sedation.
   Allergies:
   No Known Drug Allergies
   Infusions:
   Midazolam (Versed) - 9 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-4-19**] 12:33 AM
   Flowsheet Data as of  [**2111-4-19**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 76 (68 - 79) bpm
   BP: 143/69(93) {128/67(86) - 149/76(99)} mmHg
   RR: 15 (9 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 342 (17 - 352)mmHg
             Total In:
                                                                  3,672 mL
                                                                  1,064 mL
   PO:
   TF:
                                                                  1,851 mL
                                                                    563 mL
   IVF:
                                                                  1,131 mL
                                                                    351 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    520 mL
   Urine:
                                                                  1,300 mL
                                                                    520 mL
   Balance:
                                                                  2,372 mL
                                                                    544 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 98%
   ABG: 7.39/44/120/27/1
   Ve: 9.5 L/min
   PaO2 / FiO2: 240
   Physical Examination
   GEN: Intubated, sedated
   HEENT: ET tube and OG tube in place
   NECK: Supple, large circumference, right IJ in place
   PULM: Clear anteriorly with overlying vent sounds
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: Obese, BS+, soft, slightly tympanitic
   EXT: No C/C/E
   NEURO: Sedated, withdraws to pain
   Labs / Radiology
   283 K/uL
   8.7 g/dL
   109 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.7 mEq/L
   37 mg/dL
   109 mEq/L
   142 mEq/L
   25.9 %
   10.0 K/uL
        [image002.jpg]
                             [**2111-4-17**]  03:37 AM
                             [**2111-4-17**]  05:26 AM
                             [**2111-4-17**]  06:26 AM
                             [**2111-4-17**]  10:23 AM
                             [**2111-4-17**]  12:01 PM
                             [**2111-4-18**]  03:59 AM
                             [**2111-4-18**]  04:24 AM
                             [**2111-4-18**]  04:35 PM
                             [**2111-4-19**]  04:06 AM
                             [**2111-4-19**]  04:26 AM
   WBC
   10.7
   10.0
   Hct
   25.9
   25.9
   Plt
   295
   283
   Cr
   1.0
   0.9
   TCO2
   25
   26
   25
   24
   24
   26
   29
   28
   Glucose
   110
   109
   Other labs: PT / PTT / INR:14.1/22.1/1.2, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:104/63, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:90.7 %, Lymph:7.1 %, Mono:1.7 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, LDH:702 IU/L, Ca++:8.2 mg/dL, Mg++:3.1 mg/dL, PO4:3.8
   mg/dL
   [**Doctor First Name **]: pending
   Anti-GBM: pending
   ANCA: negative
   Assessment and Plan
   57M with ILD on prednisone, Afib s/p recent ablation, CAD; transfer
   from OSH with dyspnea, hypoxia, and hemoptysis.
   # Hypoxemic respiratory failure / hemoptysis:
   Likely inter-related processes. Patient had acute change in respiratory
   status on evening of [**4-15**] when he had progressive hypoxia and tachypnea
   leading to an emergent intubation. Difficulty with oxygenation with
   standard vent modes led to patient being placed on APRV mode, with good
   response in oxygenation. Patient switched to CMV on [**4-17**] with PEEP at
   18 and FiO2 titrated down to 50%. Now stable with oxygen sats in the
   upper 90s. Still with unknown cause of hypoxia and hemoptysis overall.
   Caridology consult assisted in ruling out pulmonary vein stenosis as
   cause of acute hemoptysis and hypoxia following atrial-fib ablation.
   TEE was negative for pulmonary vein stenosis. Bronchoscopy on [**4-16**] was
   consistent with diffuse alveolar hemorrhage. Due to concern for
   vasculitis, pulse dose steroids (methylprednisolone at 1 gram every 24
   hours) were initiated on [**4-16**]. CRP was elevated at 24. Hemoptysis has
   been improving since admission; HCT has been stable at 26 in last three
   days. BAL without positive culture data at this time. Viral screen from
   BALcould not be run due to insufficient sample.
   - Begin tapering steroids with 60mg prednisone tomorrow
   - Liberate from vent as possible starting with decreased PEEP
   - Maintain even to slightly negative I/O
   - Follow-up [**Doctor First Name **]
   - Follow-up culture data
   - Redraw viral respiratory screen
   - Continue to trend HCT
   - Maintain active type and screen and transfuse for HCT less than 21
   - Hold aspirin and warfarin
   # Afib:
   s/p recent ablation.  Now in sinus rhythm.
   - Continue sotalol
   - Hold warfarin
   - Hold atenolol due to periodic hypotension
   # Coronary artery disease:
   Ruled out for MI at presentation.
   - Continue statin
   - Hold home aspirin until complete resolution of hemoptysis
   - Hold home atenolol and lisinopril due to hypotension after admission
   # Hypertension / Hypotension:
   This AM has SBP up to 150s. Holding home atenolol, lisinopril,
   tamsulosin due to hypotension at admission.
   - Think about starting lisinopril today if pressures remain elevated to
   150s systolic
   # DM:
   Glucose has gone up with the steroid on top of diabetes.
   - Insulin drip for now then after steroids are weaned can return to
   insulin sliding scale with glargine
   - Hold metformin
   ICU Care
   Nutrition: Boost Glucose Control - [**2111-4-17**] 12:00 AM 30 mL/hour
   Glycemic Control:  Insulin drip
   Lines:
   20 Gauge - [**2111-4-15**] 09:10 AM
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
   DVT: Heparin subcutaneous
   Stress ulcer: PPI
   VAP:  Oral care and HOB elevation
   Communication:  With patient
s wife and two sons
   [**Name (NI) 156**] status: FULL
   Disposition: ICU care for now

2111-04-19 10:21:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Hypoxemic respiratory failure, hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - 1g solumedrol
   -'old' appearing blood on suctioning - no new hemoptysis
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 200 mcg/hour
   Insulin - Regular - 13 units/hour
   Midazolam (Versed) - 9 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-4-19**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-19**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 80 (68 - 80) bpm
   BP: 147/75(97) {128/67(86) - 149/76(99)} mmHg
   RR: 12 (11 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 13 (13 - 352)mmHg
   Total In:
                                                                  3,673 mL
                                                                  1,638 mL
   PO:
   TF:
                                                                  1,851 mL
                                                                    696 mL
   IVF:
                                                                  1,132 mL
                                                                    482 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    720 mL
   Urine:
                                                                  1,300 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,373 mL
                                                                    918 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 28 cmH2O
   SpO2: 98%
   ABG: 7.39/44/120/27/1
   Ve: 10.9 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   283 K/uL
   109 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.7 mEq/L
   37 mg/dL
   109 mEq/L
   142 mEq/L
   25.9 %
   10.0 K/uL
        [image002.jpg]
                             [**2111-4-17**]  03:37 AM
                             [**2111-4-17**]  05:26 AM
                             [**2111-4-17**]  06:26 AM
                             [**2111-4-17**]  10:23 AM
                             [**2111-4-17**]  12:01 PM
                             [**2111-4-18**]  03:59 AM
                             [**2111-4-18**]  04:24 AM
                             [**2111-4-18**]  04:35 PM
                             [**2111-4-19**]  04:06 AM
                             [**2111-4-19**]  04:26 AM
   WBC
   10.7
   10.0
   Hct
   25.9
   25.9
   Plt
   295
   283
   Cr
   1.0
   0.9
   TCO2
   25
   26
   25
   24
   24
   26
   29
   28
   Glucose
   110
   109
   Other labs: PT / PTT / INR:14.1/22.1/1.2, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:104/63, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:90.7 %, Lymph:7.1 %, Mono:1.7 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, LDH:702 IU/L, Ca++:8.2 mg/dL, Mg++:3.1 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   Hypoxemic respiratory failure:
   -b/l infltrates with bloody return on BAL potentially consistent with
   alveolar hemorrhage syndrome
   -pulse dose steroids initiated
   -PSV trial
   AFib:
   -Continue sotalol
   Hemoptysis
   -less noted on suctioning - is old now in appearance
   -airways clear of lesions
   -? DAH
   -off ASA, coumadin
   Anemia:
   -Hct stable
   ILD:
   -not biopsy proven - NSIP current leading dx
   -evidence of outflow obstruction on vent flow tracing not c/w pure ILD
   picture.  ? other obstructive proces in play
   DM:
   -insulin drip
   Hemodyn:
   -stable
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2111-04-20 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Switched to pressure support
   - pan-cultured for temp of 102.2
 NASAL SWAB - At [**2111-4-19**] 11:00 AM
 SPUTUM CULTURE - At [**2111-4-19**] 08:34 PM
 FEVER - 102.2
F - [**2111-4-19**] 06:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 9 mg/hour
   Insulin - Regular - 2 units/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2111-4-19**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2111-4-19**] 04:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-20**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.8
C (100
   HR: 81 (73 - 87) bpm
   BP: 135/63(85) {131/63(83) - 151/75(98)} mmHg
   RR: 9 (9 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 6 (6 - 322)mmHg
   Total In:
                                                                  3,943 mL
                                                                  1,137 mL
   PO:
   TF:
                                                                  1,832 mL
                                                                    501 mL
   IVF:
                                                                  1,161 mL
                                                                    291 mL
   Blood products:
   Total out:
                                                                  1,985 mL
                                                                    480 mL
   Urine:
                                                                  1,985 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,958 mL
                                                                    657 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 914 (914 - 1,284) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 9
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 28 cmH2O
   SpO2: 95%
   ABG: 7.40/52/84.[**Numeric Identifier 117**]/27/5
   Ve: 9.9 L/min
   PaO2 / FiO2: 210
   Physical Examination
   GEN: Intubated, sedated
   HEENT: ET tube and OG tube in place
   NECK: Supple, large circumference, right IJ in place
   PULM: Clear anteriorly with overlying vent sounds
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: Obese, BS+, soft, slightly tympanitic
   EXT: No C/C/E
   NEURO: Sedated, withdraws to pain
   Labs / Radiology
   259 K/uL
   8.6 g/dL
   71 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.4 mEq/L
   36 mg/dL
   109 mEq/L
   142 mEq/L
   25.2 %
   10.8 K/uL
        [image002.jpg]
                             [**2111-4-17**]  12:01 PM
                             [**2111-4-18**]  03:59 AM
                             [**2111-4-18**]  04:24 AM
                             [**2111-4-18**]  04:35 PM
                             [**2111-4-19**]  04:06 AM
                             [**2111-4-19**]  04:26 AM
                             [**2111-4-19**]  05:24 PM
                             [**2111-4-19**]  08:27 PM
                             [**2111-4-20**]  03:34 AM
                             [**2111-4-20**]  04:52 AM
   WBC
   10.7
   10.0
   10.8
   Hct
   25.9
   25.9
   25.2
   Plt
   295
   283
   259
   Cr
   1.0
   0.9
   0.8
   TCO2
   24
   26
   29
   28
   31
   31
   33
   Glucose
   110
   109
   71
   Other labs: PT / PTT / INR:14.2/35.4/1.2, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:104/63, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:88.7 %, Lymph:8.2 %, Mono:2.6 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, LDH:702 IU/L, Ca++:8.1 mg/dL, Mg++:3.0 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   57M with ILD on prednisone, Afib s/p recent ablation, CAD; transfer
   from OSH with dyspnea, hypoxia, and hemoptysis.
   # Hypoxemic respiratory failure / hemoptysis:
   Likely inter-related processes. Patient had acute change in respiratory
   status on evening of [**4-15**] when he had progressive hypoxia and tachypnea
   leading to an emergent intubation. Difficulty with oxygenation with
   standard vent modes led to patient being placed on APRV mode, with good
   response in oxygenation. Patient switched to CMV on [**4-17**] with PEEP at
   18 and FiO2 titrated down to 50%. Now stable with oxygen sats in the
   upper 90s. Still with unknown cause of hypoxia and hemoptysis overall.
   Caridology consult assisted in ruling out pulmonary vein stenosis as
   cause of acute hemoptysis and hypoxia following atrial-fib ablation.
   TEE was negative for pulmonary vein stenosis. Bronchoscopy on [**4-16**] was
   consistent with diffuse alveolar hemorrhage. Due to concern for
   vasculitis, pulse dose steroids (methylprednisolone at 1 gram every 24
   hours) were initiated on [**4-16**]. CRP was elevated at 24. Hemoptysis has
   been improving since admission; HCT has been stable at 25-26. BAL
   without positive culture data at this time. Viral screen from BAL could
   not be run due to insufficient sample.
   - Steroids 60mg prednisone q day
   - Wean from vent as possible starting with decreased PEEP
   - Maintain even to slightly negative I/O
   - Follow-up [**Doctor First Name **]
   - Follow-up culture data
   - Redraw viral respiratory screen
   - Continue to trend HCT
   - Maintain active type and screen and transfuse for HCT less than 21
   - Hold aspirin and warfarin
   # Fever:
   Spiked to 102.2 overnight. Pancultured.
   - Follow cultures
   - Continue to monitor temps
   # Afib:
   s/p recent ablation.  Now in sinus rhythm.
   - Continue sotalol
   - Hold warfarin
   - Hold atenolol due to periodic hypotension
   # Coronary artery disease:
   Ruled out for MI at presentation.
   - Continue statin
   - Hold home aspirin until complete resolution of hemoptysis
   - Hold home atenolol and lisinopril due to hypotension after admission
   # Hypertension / Hypotension:
   Last 24 hours BPs 130s-150s systolic. Holding home atenolol,
   lisinopril, tamsulosin due to hypotension at admission.
   - Will consider starting lisinopril today if pressures remain elevated
   to 150s systolic
   # DM: Hyperglycemia in setting of diabetes and steroids.
   - Insulin drip for now then after steroids are weaned can return to
   insulin sliding scale with glargine
   - Hold metformin
   ICU Care
   Nutrition:
   Ensure (Full) - [**2111-4-20**] 04:50 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
                  DVT: Heparin subcutaneous
   Stress ulcer: PPI
   VAP:  Oral care and HOB elevation
   Communication:  With patient
s wife and two sons
   [**Name (NI) 156**] status: FULL
   Disposition: ICU care for now

2111-04-20 10:07:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NASAL SWAB - At [**2111-4-19**] 11:00 AM
 SPUTUM CULTURE - At [**2111-4-19**] 08:34 PM
 FEVER - 102.2
F - [**2111-4-19**] 06:00 PM
        - Pan cultured
   - changed to PSV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 200 mcg/hour
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2111-4-19**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2111-4-19**] 04:13 PM
   Midazolam (Versed) - [**2111-4-20**] 08:30 AM
   Fentanyl - [**2111-4-20**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-20**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.8
C (100
   HR: 102 (73 - 102) bpm
   BP: 134/67(87) {131/63(83) - 151/75(98)} mmHg
   RR: 10 (9 - 19) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
   CVP: 6 (6 - 322)mmHg
   Total In:
                                                                  3,943 mL
                                                                  1,469 mL
   PO:
   TF:
                                                                  1,832 mL
                                                                    739 mL
   IVF:
                                                                  1,161 mL
                                                                    385 mL
   Blood products:
   Total out:
                                                                  1,985 mL
                                                                    740 mL
   Urine:
                                                                  1,985 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,958 mL
                                                                    729 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 841 (841 - 1,284) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 25
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 92%
   ABG: 7.40/52/84.[**Numeric Identifier 117**]/27/5
   Ve: 18.9 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   No(t) Oriented (to): , Movement: Not assessed, Sedated, Tone: Not
   assessed
   Labs / Radiology
   8.6 g/dL
   259 K/uL
   71 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.4 mEq/L
   36 mg/dL
   109 mEq/L
   142 mEq/L
   25.2 %
   10.8 K/uL
        [image002.jpg]
                             [**2111-4-17**]  12:01 PM
                             [**2111-4-18**]  03:59 AM
                             [**2111-4-18**]  04:24 AM
                             [**2111-4-18**]  04:35 PM
                             [**2111-4-19**]  04:06 AM
                             [**2111-4-19**]  04:26 AM
                             [**2111-4-19**]  05:24 PM
                             [**2111-4-19**]  08:27 PM
                             [**2111-4-20**]  03:34 AM
                             [**2111-4-20**]  04:52 AM
   WBC
   10.7
   10.0
   10.8
   Hct
   25.9
   25.9
   25.2
   Plt
   295
   283
   259
   Cr
   1.0
   0.9
   0.8
   TCO2
   24
   26
   29
   28
   31
   31
   33
   Glucose
   110
   109
   71
   Other labs: PT / PTT / INR:14.2/35.4/1.2, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:104/63, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:88.7 %, Lymph:8.2 %, Mono:2.6 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, LDH:702 IU/L, Ca++:8.1 mg/dL, Mg++:3.0 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   Hypoxemic respiratory failure:
   -b/l infltrates with bloody return on BAL potentially consistent with
   alveolar hemorrhage syndrome
   -pulse dose steroids initiated
   -PSV trial
   AFib:
   -Continue sotalol
   Hemoptysis
   -less noted on suctioning - is old now in appearance and minimal in
   quantity
   -airways clear of lesions on FOB
   -? DAH
   -off ASA, coumadin
   Anemia:
   -Hct stable
   ILD:
   -not biopsy proven - NSIP current leading dx
   -evidence of outflow obstruction on vent flow tracing not c/w pure ILD
   picture.  ? other obstructive process in play
    DM:
   -insulin drip
   -has been requiring more over last 24hrs
   Hemodyn:
   -stable
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Ensure (Full) - [**2111-4-20**] 04:50 AM 75 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2111-04-21 07:21:00 Physician Resident Progress Note
Chief Complaint: Hypoxia and Hemoptysis
   24 Hour Events:
   - Increase in FiO2 from 40% to 50%
   ROS:
   - Unable to obtain due to sedation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2111-4-20**] 09:16 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Insulin - Regular - 7 units/hour
   Midazolam (Versed) - 9 mg/hour
   Other ICU medications:
   Fentanyl - [**2111-4-20**] 08:30 AM
   Lansoprazole (Prevacid) - [**2111-4-20**] 09:16 AM
   Midazolam (Versed) - [**2111-4-20**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2111-4-20**] 04:26 PM
   Flowsheet Data as of  [**2111-4-21**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.5
C (99.5
   HR: 87 (84 - 110) bpm
   BP: 136/77(96) {121/67(86) - 156/95(256)} mmHg
   RR: 9 (7 - 16) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 17 (8 - 17)mmHg
             Total In:
                                                                  3,579 mL
                                                                    889 mL
   PO:
             TF:
                                                                  1,740 mL
                                                                    541 mL
   IVF:
                                                                    964 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                  1,840 mL
                                                                    740 mL
   Urine:
                                                                  1,820 mL
                                                                    740 mL
   NG:
                                                                     20 mL
   Balance:
                                                                  1,739 mL
                                                                    149 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,040 (841 - 1,120) mL
   PS : 8 cmH2O
   RR (Spontaneous): 9
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 95%
   ABG: 7.40/50/117/27/5
   Ve: 9.8 L/min
   PaO2 / FiO2: 234
   Physical Examination
   GEN: Intubated, sedated
   HEENT: ET tube and OG tube in place
   NECK: Supple, large circumference, right IJ in place
   PULM: Coarse anteriorly with inspiratory wheeze
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: Obese, BS+, soft, slightly tympanitic
   EXT: No C/C/E
   NEURO: Sedated, withdraws to pain
   Labs / Radiology
   229 K/uL
   8.8 g/dL
   150 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.8 mEq/L
   30 mg/dL
   108 mEq/L
   143 mEq/L
   25.6 %
   11.0 K/uL
        [image002.jpg]
                             [**2111-4-18**]  04:35 PM
                             [**2111-4-19**]  04:06 AM
                             [**2111-4-19**]  04:26 AM
                             [**2111-4-19**]  05:24 PM
                             [**2111-4-19**]  08:27 PM
                             [**2111-4-20**]  03:34 AM
                             [**2111-4-20**]  04:52 AM
                             [**2111-4-20**]  11:15 AM
                             [**2111-4-21**]  02:11 AM
                             [**2111-4-21**]  03:00 AM
   WBC
   10.0
   10.8
   11.0
   Hct
   25.9
   25.2
   25.6
   Plt
   [**Telephone/Fax (3) 5894**]
   Cr
   0.9
   0.8
   0.7
   TCO2
   29
   28
   31
   31
   33
   32
   32
   Glucose
   109
   71
   150
   Other labs: PT / PTT / INR:14.2/35.4/1.2, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:104/63, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:88.7 %, Lymph:8.2 %, Mono:2.6 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, LDH:702 IU/L, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL, PO4:3.6
   mg/dL
   MICRO:
   [**2111-4-19**]  SPUTUM GRAM STAIN- 4+ GRAM POSITIVE COCCI. IN PAIRS AND
   CLUSTERS
   [**2111-4-19**]  RESPIRATORY CULTURE-PRELIMINARY NGTD
   [**2111-4-19**]  URINE URINE CULTURE-PENDING NGTD
   [**2111-4-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING NGTD
   [**2111-4-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING NGTD
   [**2111-4-19**]  Rapid Respiratory Viral Antigen Test-FINAL Negative for:
   ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B AND RSV.
   Assessment and Plan
   57M with ILD on prednisone, Afib s/p recent ablation, CAD; transfer
   from OSH with dyspnea, hypoxia, and hemoptysis.
   # Hypoxemic respiratory failure / hemoptysis:
   Likely inter-related processes. Patient had acute change in respiratory
   status on evening of [**4-15**] when he had progressive hypoxia and tachypnea
   leading to an emergent intubation. Difficulty with oxygenation with
   standard vent modes led to patient being placed on APRV mode, with good
   response in oxygenation. Patient switched to CMV on [**4-17**] with PEEP at
   18 and FiO2 titrated down to 50%. Now stable with oxygen sats in the
   upper 90s. Still with unknown cause of hypoxia and hemoptysis overall.
   Caridology consult assisted in ruling out pulmonary vein stenosis as
   cause of acute hemoptysis and hypoxia following atrial-fib ablation.
   TEE was negative for pulmonary vein stenosis. Bronchoscopy on [**4-16**] was
   consistent with diffuse alveolar hemorrhage. Due to concern for
   vasculitis, pulse dose steroids (methylprednisolone at 1 gram every 24
   hours) were initiated on [**4-16**]. CRP was elevated at 24. Hemoptysis has
   been improving since admission; HCT has been stable at 25-26. [**2111-4-19**]
   sputum with organisms on gram stain; however, no culture data at this
   time. ANCA, [**Doctor First Name **], and anti-GBM are negative; however, with elevated CRP
   and encouraging response to steroids with improving vent setting and
   CXR, vasculitis is not ruled-out. Respiratory viral screen is negative.
    Having issues with sedation and periodic agitation requiring boluses
   of midaz and fent.
   - Standing and PRN haldol to help manage sedation.
   - Check EKG this afternoon to monitor QTc.
   - Continue 60mg prednisone daily
   - Attempt to liberate from high PEEP today
   - Maintain even to slightly negative I/O
   - Follow-up culture data
   - Continue to trend HCT
   - Maintain active type and screen and transfuse for HCT less than 21
   - Hold aspirin and warfarin
   # Fever:
   Afebrile in last 24 hours; however, temp has been in low 100s.
   - Follow-up culture data
   # Afib:
   s/p recent ablation.  Now in sinus rhythm.
   - Continue sotalol
   - Hold warfarin
   - Hold atenolol due to periodic hypotension
   # Coronary artery disease:
   Ruled out for MI at presentation.
   - Continue statin
   - Hold home aspirin until complete resolution of hemoptysis
   - Hold home atenolol and lisinopril due to hypotension after admission
   # Hypertension / Hypotension:
   Last 24 hours BPs 130s-150s systolic when patient comfortable with
   paroxysms of BP to 200s systolic with agitation. We were holding home
   atenolol, lisinopril, tamsulosin due to hypotension at admission.
   - Restart home lisinopril dosing
   # DM:
   Hyperglycemia in setting of diabetes and steroids.
   - Insulin drip for now then after steroids are weaned can return to
   insulin sliding scale with glargine
   - Hold metformin
   ICU Care
   Nutrition:  Boost glucose control - [**2111-4-20**] 04:50 AM 75 mL/hour with
   increase in free water today due to increasing sodium.
   Glycemic Control:  Insulin drip
   Lines:
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
                  DVT: Heparin subcutaneous
   Stress ulcer: PPI
   VAP:  Oral care and HOB elevation
   Communication:  With patient
s wife and two sons
   [**Name (NI) 156**] status: FULL
   Disposition: ICU care for now

2111-04-21 10:32:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with ILD, respiratory failure, ?pulmonary hemorrhage after AF
   ablation.  Has been tolerating PSV well
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2111-4-20**] 09:16 AM
   Infusions:
   Fentanyl - 175 mcg/hour
   Insulin - Regular - 7 units/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2111-4-21**] 08:45 AM
   Lansoprazole (Prevacid) - [**2111-4-21**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2111-4-21**] 09:00 AM
   Other medications:
   lipitor
   colchicine
   [**Doctor First Name **]
   requip
   versed
   fentanyl
   insulin
   chlorhex
   prevacid
   paxil
   sotalol
   bactrim
   calcium
   vitamin D
   Hep s/q
   MVI
   prednisone 60mg
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-21**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.4
   HR: 89 (84 - 110) bpm
   BP: 129/74(92) {125/67(86) - 156/86(109)} mmHg
   RR: 8 (7 - 16) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 11 (8 - 17)mmHg
   Total In:
                                                                  3,579 mL
                                                                  1,562 mL
   PO:
   TF:
                                                                  1,740 mL
                                                                    771 mL
   IVF:
                                                                    964 mL
                                                                    396 mL
   Blood products:
   Total out:
                                                                  1,840 mL
                                                                    950 mL
   Urine:
                                                                  1,820 mL
                                                                    950 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  1,739 mL
                                                                    614 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,177 (1,000 - 1,177) mL
   PS : 8 cmH2O
   RR (Spontaneous): 7
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 97%
   ABG: 7.40/50/117/27/5
   Ve: 8.5 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, No(t) Sedated, Tone: Not
   assessed
   Labs / Radiology
   8.8 g/dL
   229 K/uL
   150 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.8 mEq/L
   30 mg/dL
   108 mEq/L
   143 mEq/L
   25.6 %
   11.0 K/uL
        [image002.jpg]
                             [**2111-4-18**]  04:35 PM
                             [**2111-4-19**]  04:06 AM
                             [**2111-4-19**]  04:26 AM
                             [**2111-4-19**]  05:24 PM
                             [**2111-4-19**]  08:27 PM
                             [**2111-4-20**]  03:34 AM
                             [**2111-4-20**]  04:52 AM
                             [**2111-4-20**]  11:15 AM
                             [**2111-4-21**]  02:11 AM
                             [**2111-4-21**]  03:00 AM
   WBC
   10.0
   10.8
   11.0
   Hct
   25.9
   25.2
   25.6
   Plt
   [**Telephone/Fax (3) 5894**]
   Cr
   0.9
   0.8
   0.7
   TCO2
   29
   28
   31
   31
   33
   32
   32
   Glucose
   109
   71
   150
   Other labs: PT / PTT / INR:14.2/35.4/1.2, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:104/63, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:88.7 %, Lymph:8.2 %, Mono:2.6 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, LDH:702 IU/L, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   Respiartory failure:  Clear improvement on CXR and with ventilation.
   Will try and wean down the PEEP and try to wean off ventilator
   pulmonary hemorrage, ?ANCA negative vasculitis, will talk with Dr.
   [**Last Name (STitle) **] about initiating cytoxan
   DM:  Steroid induced hyperglycemia
   AF:  in NSR, off anticoagulation.
   Agitation:  Will try and wean sedation and use haldol for agitation
   ICU Care
   Nutrition:
   Ensure (Full) - [**2111-4-21**] 08:17 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2111-04-22 07:40:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   - Was restarted on home lisinopril
   - Vent liberation attempted by dropping FiO2 from 50% to 40% and
   decreasing PEEP from 14 to 10 with first ABG of 7.40/54/92
   - Afternoon ABG after several hours of reduced vent setting was
   7.43/51/65
   - Due to low pO2, FiO2 was increased back to 50%
   - Patient continued to have [**Last Name (LF) **], [**First Name3 (LF) **] PEEP was increased to 12 and
   serial ABGs were 7.44/43/86 and 7.43/49/136
   - Continues to require bolus sedation with fentanyl and midazolam, also
   received haldol 2 mg several times
   - FiO2 decreased back to 40% this AM transiently prior to desaturation
   during agitation requiring FiO2 to 100% for recover
   Review of Systems:
   Unable to perform due to sedation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2111-4-20**] 09:16 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2111-4-21**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2111-4-22**] 12:02 AM
   Midazolam (Versed) - [**2111-4-22**] 05:10 AM
   Haloperidol (Haldol) - [**2111-4-22**] 05:27 AM
   Fentanyl - [**2111-4-22**] 06:34 AM
   Flowsheet Data as of  [**2111-4-22**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 102 (77 - 108) bpm
   BP: 154/80(105) {96/55(69) - 183/96(126)} mmHg
   RR: 11 (7 - 17) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 12 (10 - 17)mmHg
         Total In:
                                                                  3,640 mL
                                                                  1,205 mL
   PO:
         TF:
                                                                  1,802 mL
                                                                    570 mL
   IVF:
                                                                    843 mL
                                                                    195 mL
   Total out:
                                                                  1,705 mL
                                                                    915 mL
   Urine:
                                                                  1,685 mL
                                                                    715 mL
   NG:
                                                                     20 mL
   Stool:
   200 mL
   Balance:
                                                                  1,935 mL
                                                                    290 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 791 (598 - 1,177) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 10
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.43/49/136/27/7
   Ve: 8.4 L/min
   PaO2 / FiO2: 272
   Physical Examination
   GEN: Intubated, sedated
   HEENT: ET tube and OG tube in place, oral mucosa with white plaques
   NECK: Supple, large circumference, right IJ in place
   PULM: Coarse anteriorly with inspiratory wheeze
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: Obese, BS+, soft, slightly tympanitic
   EXT: No C/C/E
   NEURO: Sedated, withdraws to pain
   Labs / Radiology
   208 K/uL
   8.7 g/dL
   240 mg/dL
   0.6 mg/dL
   27 mEq/L
   5.0 mEq/L
   25 mg/dL
   104 mEq/L
   139 mEq/L
   26.1 %
   9.6 K/uL
        [image002.jpg]
                             [**2111-4-20**]  04:52 AM
                             [**2111-4-20**]  11:15 AM
                             [**2111-4-21**]  02:11 AM
                             [**2111-4-21**]  03:00 AM
                             [**2111-4-21**]  11:16 AM
                             [**2111-4-21**]  03:20 PM
                             [**2111-4-21**]  08:31 PM
                             [**2111-4-21**]  11:05 PM
                             [**2111-4-22**]  02:15 AM
                             [**2111-4-22**]  04:21 AM
   WBC
   11.0
   9.6
   Hct
   25.6
   26.1
   Plt
   229
   208
   Cr
   0.7
   0.6
   TCO2
   33
   32
   32
   35
   35
   33
   30
   34
   Glucose
   150
   240
   Other labs: PT / PTT / INR:13.8/56.4/1.2, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:132/49, Alk Phos / T Bili:64/1.3,
   Differential-Neuts:90.0 %, Lymph:6.4 %, Mono:2.2 %, Eos:1.2 %, Lactic
   Acid:1.0 mmol/L, LDH:568 IU/L, Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:3.3
   mg/dL
   MICRO:
[**2111-4-19**]  SPUTUM GRAM STAIN-FINAL; 4+ GRAM POSITIVE COCCI IN PAIRS AND CLUSTER
   [**2111-4-19**]  RESPIRATORY CULTURE-PRELIMINARY Moderate oral flora
   [**2111-4-19**]  URINE URINE CULTURE-FINAL {STAPHYLOCOCCUS, COAGULASE
   NEGATIVE}
   [**2111-4-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING NGTD
   [**2111-4-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING NGTD
   Assessment and Plan
   57M with ILD on prednisone, Afib s/p recent ablation, CAD; transfer
   from OSH with dyspnea, hypoxia, and hemoptysis.
   # Hypoxemic respiratory failure / hemoptysis:
   Likely inter-related processes. Patient had acute change in respiratory
   status on evening of [**4-15**] when he had progressive hypoxia and tachypnea
   leading to an emergent intubation. Difficulty with oxygenation with
   standard vent modes led to patient being placed on APRV mode initially,
   with good response in oxygenation. Still with unknown cause of hypoxia
   and hemoptysis overall. Caridology consult assisted in ruling out
   pulmonary vein stenosis as cause of acute hemoptysis and hypoxia
   following atrial-fib ablation. TEE was negative for pulmonary vein
   stenosis. Bronchoscopy on [**4-16**] was consistent with diffuse alveolar
   hemorrhage. Due to concern for vasculitis, pulse dose steroids
   (methylprednisolone at 1 gram every 24 hours) were initiated on [**4-16**].
   CRP was elevated at 24. Hemoptysis has been improving since admission;
   HCT has been stable at 25-26. [**2111-4-19**] sputum with organisms on gram
   stain; however, no culture data at this time. ANCA, [**Doctor First Name **], and anti-GBM
   are negative; however, with elevated CRP and encouraging response to
   steroids with improving vent setting and CXR, vasculitis is not
   ruled-out and is furthermore the leading diagnosis at this time.
   Respiratory viral screen is negative.  Having issues with sedation and
   periodic agitation requiring boluses of midaz and fent. Currently
   tolerating pressure support ventilation with 8 over 12 and FiO2 of 50%.
   - Standing and PRN haldol (single dose up to 5 mg) to help manage
   sedation.
   - Use telemetry to monitor QTc.
   - Continue 60 mg prednisone daily
   - Initiate cyclophosphamide for presumed vasculitis
   - Liberate PEEP and FiO2 as tolerated
   - Follow-up culture data
   - Continue to trend HCT
   - Maintain active type and screen and transfuse for HCT less than 21
   - Hold aspirin and warfarin
   # Fever:
   Afebrile in last 24 hours. Sputum has been copious and thick; however,
   culture data only consistent with oropharyngeal flora. Has coag (-)ve
   staph in urine; however, unlikely to be cause of fevers.
   - Foley change given bacterial colonization likely
   - Follow-up pending culture data
   # Afib:
   s/p recent ablation.  Now in sinus rhythm.
   - Continue sotalol
   - Hold warfarin
   - Hold atenolol due to periodic hypotension
   # Coronary artery disease:
   Ruled out for MI at presentation.
   - Continue statin and lisinopril
   - Hold home aspirin until complete resolution of hemoptysis
   - Hold home atenolol due to hypotension after admission
   # Hypertension / Hypotension:
   Baseline BP better controlled with lisinopril added.
   - Continue lisinopril 5 mg
   - PM lytes
   # DM:
   Hyperglycemia in setting of diabetes and steroids.
   - Glargine insulin twice daily as well as humalog sliding scale
   - Hold metformin
   # Thrush:
   Likely related to high dose steroids.
   - Oral nystatin as needed
   ICU Care
   Nutrition:  Boost glucose control - [**2111-4-20**] 04:50 AM 75 mL/hour
   Glycemic Control:  Glargine 15 units [**Hospital1 **] and humalog sliding scale
   Lines:
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
                  DVT: Heparin subcutaneous
   Stress ulcer: PPI
   VAP:  Oral care and HOB elevation
   Communication:  With patient
s wife and two sons
   [**Name (NI) 156**] status: FULL
   Disposition: ICU care for now

2111-04-22 10:34:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with ILD, respiratory failure, alveolar hemorrhage.  Some
   desaturation yesterday required increase of FiO2 and Peep.
   24 Hour Events:
 EKG - At [**2111-4-22**] 05:09 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2111-4-20**] 09:16 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2111-4-22**] 05:27 AM
   Fentanyl - [**2111-4-22**] 06:34 AM
   Midazolam (Versed) - [**2111-4-22**] 08:25 AM
   Heparin Sodium (Prophylaxis) - [**2111-4-22**] 08:26 AM
   Lansoprazole (Prevacid) - [**2111-4-22**] 08:26 AM
   Other medications:
   lipitor
   colchicine
   [**Doctor First Name **]
   ropinarole
   paxil
   sotalol
   bactrim
   vitamin D
   hep s/q
   MVI
   prednisone 60 mg a day
   lisinopril
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-22**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 85 (77 - 108) bpm
   BP: 117/71(86) {96/55(69) - 183/96(126)} mmHg
   RR: 9 (7 - 17) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 11 (10 - 17)mmHg
   Total In:
                                                                  3,640 mL
                                                                  1,505 mL
   PO:
   TF:
                                                                  1,802 mL
                                                                    664 mL
   IVF:
                                                                    843 mL
                                                                    281 mL
   Blood products:
   Total out:
                                                                  1,705 mL
                                                                  1,035 mL
   Urine:
                                                                  1,685 mL
                                                                    835 mL
   NG:
                                                                     20 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,935 mL
                                                                    470 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 937 (598 - 1,061) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 19
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: 7.43/49/136/27/7
   Ve: 25.1 L/min
   PaO2 / FiO2: 272
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   208 K/uL
   240 mg/dL
   0.6 mg/dL
   27 mEq/L
   5.0 mEq/L
   25 mg/dL
   104 mEq/L
   139 mEq/L
   26.1 %
   9.6 K/uL
        [image002.jpg]
                             [**2111-4-20**]  04:52 AM
                             [**2111-4-20**]  11:15 AM
                             [**2111-4-21**]  02:11 AM
                             [**2111-4-21**]  03:00 AM
                             [**2111-4-21**]  11:16 AM
                             [**2111-4-21**]  03:20 PM
                             [**2111-4-21**]  08:31 PM
                             [**2111-4-21**]  11:05 PM
                             [**2111-4-22**]  02:15 AM
                             [**2111-4-22**]  04:21 AM
   WBC
   11.0
   9.6
   Hct
   25.6
   26.1
   Plt
   229
   208
   Cr
   0.7
   0.6
   TCO2
   33
   32
   32
   35
   35
   33
   30
   34
   Glucose
   150
   240
   Other labs: PT / PTT / INR:13.8/56.4/1.2, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:132/49, Alk Phos / T Bili:64/1.3,
   Differential-Neuts:90.0 %, Lymph:6.4 %, Mono:2.2 %, Eos:1.2 %, Lactic
   Acid:1.0 mmol/L, LDH:568 IU/L, Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   Respiratory failure:  Will continue trying to wean.  Sedation/agitation
   is issue.  Will try to  increase haldol.
   WIll discuss starting cytoxan with pharmacy to treat vasculitis.
   Continue prednisone
   AFib:  Stable
   CAD
   DM II
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2111-04-23 07:38:00 Physician Resident Progress Note
Chief Complaint: Hypoxia, hemoptysis
   24 Hour Events:
   - Foley change (urine culture with staph) uneventful
   - Patient did continue to require high dose fent/midaz as would become
   agitated and desat whenever moved
   - Haldol was increased. QTc measured at 420 however this should be
   followed closely as patient is also on Sotalol.
   - Plan to diurese however BP remained low through most of the day
   making it difficult to give Lasix. Low BP thought to be due to
   sedation.
   - Vent settings decreased to pressure support 8 over 8 with stable FiO2
   at 50%.
   Review of Systems:
   Unabgle to obtain due to sedation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2111-4-20**] 09:16 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2111-4-22**] 08:26 AM
   Heparin Sodium (Prophylaxis) - [**2111-4-23**] 12:00 AM
   Midazolam (Versed) - [**2111-4-23**] 03:15 AM
   Furosemide (Lasix) - [**2111-4-23**] 03:30 AM
   Fentanyl - [**2111-4-23**] 05:00 AM
   Haloperidol (Haldol) - [**2111-4-23**] 05:06 AM
   Flowsheet Data as of  [**2111-4-23**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 96 (77 - 119) bpm
   BP: 98/55(69) {89/48(62) - 173/97(122)} mmHg
   RR: 10 (7 - 16) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 10 (10 - 13)mmHg
           Total In:
                                                                  3,476 mL
                                                                    661 mL
   PO:
           TF:
                                                                  1,809 mL
                                                                    351 mL
   IVF:
                                                                    738 mL
                                                                    250 mL
   Total out:
                                                                  2,545 mL
                                                                  1,660 mL
   Urine:
                                                                  2,310 mL
                                                                  1,660 mL
   NG:
                                                                     35 mL
   Stool:
                                                                    200 mL
   Balance:
                                                                    931 mL
                                                                   -999 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 804 (738 - 1,069) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 33
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: 7.46/47/109/30/9
   Ve: 17.5 L/min
   PaO2 / FiO2: 218
   Physical Examination
   GEN: Intubated, sedated
   HEENT: ET tube and OG tube in place, oral mucosa with white plaques
   NECK: Supple, large circumference, right IJ in place
   PULM: Coarse anteriorly
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: Obese, BS+, soft
   EXT: No C/C/E
   NEURO: Sedated, withdraws to pain
   Labs / Radiology
   203 K/uL
   8.7 g/dL
   193 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.6 mEq/L
   20 mg/dL
   96 mEq/L
   133 mEq/L
   25.0 %
   9.4 K/uL
        [image002.jpg]
                             [**2111-4-21**]  03:20 PM
                             [**2111-4-21**]  08:31 PM
                             [**2111-4-21**]  11:05 PM
                             [**2111-4-22**]  02:15 AM
                             [**2111-4-22**]  04:21 AM
                             [**2111-4-22**]  12:57 PM
                             [**2111-4-22**]  01:09 PM
                             [**2111-4-23**]  01:06 AM
                             [**2111-4-23**]  01:18 AM
                             [**2111-4-23**]  05:54 AM
   WBC
   9.6
   9.4
   Hct
   26.1
   25.0
   Plt
   208
   203
   Cr
   0.6
   0.5
   0.5
   TCO2
   35
   33
   30
   34
   34
   34
   34
   Glucose
   [**Telephone/Fax (3) 5935**]
   Other labs: PT / PTT / INR:13.4/42.6/1.1, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:132/49, Alk Phos / T Bili:64/1.3,
   Differential-Neuts:90.0 %, Lymph:6.4 %, Mono:2.2 %, Eos:1.2 %, Lactic
   Acid:1.0 mmol/L, LDH:568 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   57M with ILD on prednisone, Afib s/p recent ablation, CAD; transfer
   from OSH with dyspnea, hypoxia, and hemoptysis.
   # Hypoxemic respiratory failure / hemoptysis:
   Likely inter-related processes. Patient had acute change in respiratory
   status on evening of [**4-15**] when he had progressive hypoxia and tachypnea
   leading to an emergent intubation. Difficulty with oxygenation with
   standard vent modes led to patient being placed on APRV mode initially,
   with good response in oxygenation. Still with unknown cause of hypoxia
   and hemoptysis overall. Caridology consult assisted in ruling out
   pulmonary vein stenosis as cause of acute hemoptysis and hypoxia
   following atrial-fib ablation. TEE was negative for pulmonary vein
   stenosis. Bronchoscopy on [**4-16**] was consistent with diffuse alveolar
   hemorrhage. Due to concern for vasculitis, pulse dose steroids
   (methylprednisolone at 1 gram every 24 hours) were initiated on [**4-16**].
   CRP was elevated at 24. Hemoptysis has been improving since admission;
   HCT has been stable at 25-26. [**2111-4-19**] sputum with organisms on gram
   stain; however, no culture data at this time. ANCA, [**Doctor First Name **], and anti-GBM
   are negative; however, with elevated CRP and encouraging response to
   steroids with improving vent setting and CXR, vasculitis is not
   ruled-out and is furthermore the leading diagnosis at this time.
   Respiratory viral screen is negative.  Having issues with sedation and
   periodic agitation requiring boluses of midaz and fent. Unable to
   assess underlying mental status due to sedation requirements to
   ventilate properly. Addition of haldol did not significantly change
   bolus sedation requirements for midaz and fent. Will need to consider
   change from fent and midaz drips to propofol for quicker reduction of
   sedation once extubation imminent. Currently tolerating pressure
   support ventilation with 8 over 8 and FiO2 of 50%.
   - Change sedation to propofol from fent and midaz drips
   - Standing haldol to help manage sedation.
   - Use telemetry to monitor QTc and check evening EKG changes
   - Continue 60 mg prednisone daily
   - Initiate cyclophosphamide for presumed vasculitis once dosing and
   delivery are determined
   - Liberate from PEEP and FiO2 as tolerated
   - Collect new sputum culture
   - Continue to trend HCT
   - Maintain active type and screen and transfuse for HCT less than 21
   - Hold aspirin and warfarin
   # Fever:
   Afebrile in last 48 hours. Sputum has been copious and thick; however,
   culture data only consistent with oropharyngeal flora. Has coag (-)ve
   staph in urine; however, unlikely to be cause of fevers. Foley was
   changed. Increased secretions by suctioning mya be attributed to
   unrecognized infection; however, has been Afebrile with stable white
   count in last few days.
   - Collect new sputum culture
   # Afib:
   s/p recent ablation.  Now in sinus rhythm.
   - Continue sotalol
   - Hold warfarin
   - Hold atenolol due to periodic hypotension
   # Coronary artery disease:
   Ruled out for MI at presentation.
   - Continue statin and lisinopril
   - Hold home aspirin
   - Hold home atenolol due to hypotension after admission
   # Hypertension / Hypotension:
   Baseline BP better controlled with lisinopril added.
   - Continue lisinopril 5 mg
   # DM:
   Hyperglycemia in setting of diabetes and steroids. Insulin drip off and
   has FSBS in last 24 hours ranging from 142 to 245. Should titrate up
   basal insulin.
   - Glargine insulin twice daily as well as humalog sliding scale
   - Hold metformin
   # Thrush:
   Likely related to high dose steroids.
   - Oral nystatin as needed
   ICU Care
   Nutrition:  Boost glucose control - [**2111-4-20**] 04:50 AM 75 mL/hour
   Glycemic Control:  Glargine 18 units [**Hospital1 **] and humalog sliding scale
   Lines:
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
                  DVT: Heparin subcutaneous
   Stress ulcer: PPI
   VAP:  Oral care and HOB elevation
   Communication:  With patient
s wife and two sons
   [**Name (NI) 156**] status: FULL
   Disposition: ICU care for now

2111-04-23 10:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with ILD, alveolar hemorrhage and respiratory failure:
   having episodic agitation, but weaning down on Peep.
   24 Hour Events:
 EKG - At [**2111-4-22**] 12:02 PM
 EKG - At [**2111-4-23**] 12:30 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2111-4-23**] 03:30 AM
   Haloperidol (Haldol) - [**2111-4-23**] 05:06 AM
   Heparin Sodium (Prophylaxis) - [**2111-4-23**] 09:17 AM
   Midazolam (Versed) - [**2111-4-23**] 09:17 AM
   Fentanyl - [**2111-4-23**] 09:17 AM
   Other medications:
   lipitor
   fexofenidine
   ropinurole
   prevacid
   sotalol
   bactrim
   vitamin D
   hep s/q
   prednisone 60
   lisinopril
   haldol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-23**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 90 (78 - 119) bpm
   BP: 115/59(77) {89/48(62) - 195/97(130)} mmHg
   RR: 10 (7 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 10 (10 - 13)mmHg
   Total In:
                                                                  3,419 mL
                                                                  1,006 mL
   PO:
   TF:
                                                                  1,750 mL
                                                                    490 mL
   IVF:
                                                                    739 mL
                                                                    336 mL
   Blood products:
   Total out:
                                                                  2,545 mL
                                                                  2,120 mL
   Urine:
                                                                  2,310 mL
                                                                  2,120 mL
   NG:
                                                                     35 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    874 mL
                                                                 -1,114 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 624 (624 - 1,069) mL
   PS : 8 cmH2O
   RR (Spontaneous): 10
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 33
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: 7.46/47/109/30/9
   Ve: 8.4 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   203 K/uL
   193 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.6 mEq/L
   20 mg/dL
   96 mEq/L
   133 mEq/L
   25.0 %
   9.4 K/uL
        [image002.jpg]
                             [**2111-4-21**]  03:20 PM
                             [**2111-4-21**]  08:31 PM
                             [**2111-4-21**]  11:05 PM
                             [**2111-4-22**]  02:15 AM
                             [**2111-4-22**]  04:21 AM
                             [**2111-4-22**]  12:57 PM
                             [**2111-4-22**]  01:09 PM
                             [**2111-4-23**]  01:06 AM
                             [**2111-4-23**]  01:18 AM
                             [**2111-4-23**]  05:54 AM
   WBC
   9.6
   9.4
   Hct
   26.1
   25.0
   Plt
   208
   203
   Cr
   0.6
   0.5
   0.5
   TCO2
   35
   33
   30
   34
   34
   34
   34
   Glucose
   [**Telephone/Fax (3) 5935**]
   Other labs: PT / PTT / INR:13.4/42.6/1.1, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:132/49, Alk Phos / T Bili:64/1.3,
   Differential-Neuts:90.0 %, Lymph:6.4 %, Mono:2.2 %, Eos:1.2 %, Lactic
   Acid:1.0 mmol/L, LDH:568 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   Respiratory failure:  Breathing well on PSV 8/8.  Will need to wean
   peep and FiO2 little more, but is close to extubation.
   alveolar hemorrhage:  continue prednisone 60mg.  Still checking about
   cytoxan dose.
   fluid overload.  Continue diuresis.
   increased secretions today can check sputum cx.
   Will try to change over to propofol with goal of trying to get him
   extubated
   ICU Care
   Nutrition:
   Ensure (Full) - [**2111-4-23**] 09:00 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2111-04-24 07:37:00 Physician Resident Progress Note
Chief Complaint: Hypoxia, hemoptysis
   24 Hour Events:
   - Lasix 20 mg IV x 1 with good UOP
   - Ordered for cytoxan 250 mg PO x 6 days (after 6 days will need 150 mg
   PO q day)
   - Repeat sputum sample was sent in AM and gram stain consistent with
   oropharyngeal [** **]
   - Sedation was switched from fentanyl and midaz to propofol at low rate
   ROS:
   Unable to obtain due to sedation.
   Allergies:
   No Known Drug Allergies
   Other ICU medications:
   Midazolam (Versed) - [**2111-4-23**] 09:17 AM
   Fentanyl - [**2111-4-23**] 09:17 AM
   Haloperidol (Haldol) - [**2111-4-23**] 10:00 PM
   Heparin (Prophylaxis) - [**2111-4-24**] 12:00 AM
   Flowsheet Data as of  [**2111-4-24**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 99 (83 - 116) bpm
   BP: 141/74(96) {92/47(60) - 195/97(130)} mmHg
   RR: 18 (10 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 7 (5 - 7)mmHg
             Total In:
                                                                  3,452 mL
                                                                  1,284 mL
   PO:
   TF:
                                                                  1,512 mL
                                                                    569 mL
   IVF:
                                                                    790 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                  5,980 mL
                                                                  1,940 mL
   Urine:
                                                                  5,980 mL
                                                                  1,940 mL
   Balance:
                                                                 -2,528 mL
                                                                   -656 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 648 (624 - 708) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 22 cmH2O
   SpO2: 98%
   ABG: 7.51/42/136/31/9
   Ve: 15.7 L/min
   PaO2 / FiO2: 340
   Physical Examination
   GEN: Intubated, sedated
   HEENT: ET tube and OG tube in place
   NECK: Supple, large circumference, right IJ in place
   PULM: Coarse anteriorly
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: Obese, BS+, soft
   EXT: No C/C/E
   NEURO: Sedated, withdraws to pain, eyes open and patient able to follow
   simple commands this AM
   Labs / Radiology
   201 K/uL
   9.0 g/dL
   259 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.7 mEq/L
   15 mg/dL
   95 mEq/L
   134 mEq/L
   26.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2111-4-22**]  02:15 AM
                             [**2111-4-22**]  04:21 AM
                             [**2111-4-22**]  12:57 PM
                             [**2111-4-22**]  01:09 PM
                             [**2111-4-23**]  01:06 AM
                             [**2111-4-23**]  01:18 AM
                             [**2111-4-23**]  05:54 AM
                             [**2111-4-23**]  12:10 PM
                             [**2111-4-24**]  02:18 AM
                             [**2111-4-24**]  03:09 AM
   WBC
   9.6
   9.4
   8.8
   Hct
   26.1
   25.0
   26.4
   Plt
   [**Telephone/Fax (3) 5957**]
   Cr
   0.6
   0.5
   0.5
   0.6
   TCO2
   34
   34
   34
   34
   35
   35
   Glucose
   [**Telephone/Fax (3) 5958**]59
   Other labs: PT / PTT / INR:13.3/29.4/1.1, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:86/32, Alk Phos / T Bili:67/1.2,
   Differential-Neuts:90.0 %, Lymph:6.4 %, Mono:2.2 %, Eos:1.2 %, Lactic
   Acid:1.0 mmol/L, LDH:530 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.8
   mg/dL
   MICRO:
   [**2111-4-24**]  CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL NEGATIVE
   [**2111-4-23**]  BLOOD CULTURE Blood Culture, Routine-PENDING NGTD
   [**2111-4-23**]  BLOOD CULTURE Blood Culture, Routine-PENDING NGTD
   [**2111-4-23**]  URINE URINE CULTURE-PENDING NGTD
   [**2111-4-23**]  SPUTUM GRAM STAIN-FINAL OROPHARYNGEAL [**Year (4 digits) **]
   [**2111-4-23**]  RESPIRATORY CULTURE-PRELIMINARY NGTD
   Assessment and Plan
   57M with ILD on prednisone, Afib s/p recent ablation, CAD; transfer
   from OSH with dyspnea, hypoxia, and hemoptysis.
   # Hypoxemic respiratory failure / hemoptysis:
   Likely inter-related processes. Patient had acute change in respiratory
   status on evening of [**4-15**] when he had progressive hypoxia and tachypnea
   leading to an emergent intubation. Difficulty with oxygenation with
   standard vent modes led to patient being placed on APRV mode initially,
   with good response in oxygenation. Still with unknown cause of hypoxia
   and hemoptysis overall. Caridology consult assisted in ruling out
   pulmonary vein stenosis as cause of acute hemoptysis and hypoxia
   following atrial-fib ablation. TEE was negative for pulmonary vein
   stenosis. Bronchoscopy on [**4-16**] was consistent with diffuse alveolar
   hemorrhage. Due to concern for vasculitis, pulse dose steroids
   (methylprednisolone at 1 gram every 24 hours) were initiated on [**4-16**].
   CRP was elevated at 24. Hemoptysis has been improving since admission;
   HCT has been stable at 25-26. [**2111-4-19**] sputum with organisms on gram
   stain; however, no culture data at this time. ANCA, [**Doctor First Name **], and anti-GBM
   are negative; however, with elevated CRP and encouraging response to
   steroids with improving vent setting and CXR, vasculitis is not
   ruled-out and is furthermore the leading diagnosis at this time.
   Respiratory viral screen is negative.  Due to sedation management
   issues, was switched from fent/midaz to propofol drip on [**2111-4-23**].
   Currently tolerating pressure support ventilation with 8 over 8 and
   FiO2 of 40%. Had RSBIs this AM of ~ 40 and ~ 30, which are reassuring
   that he may be ready for extrubation. SBT is still pending.
   - Lighten propofol and attempt SBT with ABG following
   - Extubation pending result of SBT
   - Change haldol to PRN once extubated
   - Continue 60 mg prednisone daily
   - Initiate cyclophosphamide for presumed vasculitis at dose of 250 mg
   daily for 6 days followed by 150 mg daily
   - Will need weekly CBC with diff and daily LFTs to monitor of toxicity
   of cyclophosphamide while starting drug
   - Collect Mini-BAL prior to extubation
   - Continue to trend HCT
   - Maintain active type and screen and transfuse for HCT less than 21
   - Hold aspirin and warfarin
   # Fever:
   Low grade fever to 100.3 last night. Sputum has been copious and thick;
   however, culture data only consistent with oropharyngeal [**Year (4 digits) **]. Repeat
   sputum on [**4-23**] had gram stain of oropharyngeal [**Last Name (LF) **], [**First Name3 (LF) 124**] get mini-BAL
   today prior to extubation.
   - Collect Mini-BAL prior to extubation
   - Follow-up pending blood cultures
   # Afib:
   s/p recent ablation.  Now in sinus rhythm.
   - Continue sotalol
   - Hold warfarin
   - Hold atenolol due to periodic hypotension
   # Coronary artery disease:
   Ruled out for MI at presentation.
   - Continue statin and lisinopril
   - Hold home aspirin
   - Hold home atenolol due to hypotension after admission
   # Hypertension / Hypotension:
   Baseline BP better controlled with lisinopril added. Will watch for
   hypertension following decrease and cessation of sedation once
   extubated.
   - Continue lisinopril 5 mg
   - Consider adding on metoprolol (atenolol has been on hold) if
   pressures elevated once sedation comes off
   # DM:
   Hyperglycemia in setting of diabetes and steroids. Had high FSBS in
   early AM, perhaps related to prednisone dose at night. Will increase
   night sliding scale.
   - Glargine insulin twice daily as well as humalog sliding scale
   - Hold metformin
   # Thrush:
   Likely related to high dose steroids.
   - Oral nystatin as needed
   ICU Care
   Nutrition:  Boost glucose control - [**2111-4-20**] 04:50 AM 75 mL/hour
   Glycemic Control:  Glargine 18 units [**Hospital1 **] and humalog sliding scale
   Lines:
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
                  DVT: Heparin subcutaneous
   Stress ulcer: PPI
   VAP:  Oral care and HOB elevation
   Communication:  With patient
s wife and two sons
   [**Name (NI) 156**] status: FULL
   Disposition: ICU care for now

2111-04-24 10:24:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with respiratory failure, alveolar hemorrhage.  Changed to
   propofol and requiring only a low dose
   24 Hour Events:
 EKG - At [**2111-4-23**] 05:20 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2111-4-23**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2111-4-24**] 08:03 AM
   Other medications:
   lasix
   lipitor
   colchicine
   ropinorole
   prevacid
   sotalol
   bactrim
   vitamin D
   b12
   prednisone 60mg
   lisinpril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-24**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.1
C (98.8
   HR: 94 (83 - 116) bpm
   BP: 146/73(96) {92/47(60) - 169/83(110)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 7 (5 - 7)mmHg
   Total In:
                                                                  3,452 mL
                                                                  1,614 mL
   PO:
   TF:
                                                                  1,512 mL
                                                                    762 mL
   IVF:
                                                                    790 mL
                                                                    322 mL
   Blood products:
   Total out:
                                                                  5,980 mL
                                                                  2,540 mL
   Urine:
                                                                  5,980 mL
                                                                  2,540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,528 mL
                                                                   -926 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 676 (638 - 708) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.53/39/75/31/8
   Ve: 11.3 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   201 K/uL
   259 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.7 mEq/L
   15 mg/dL
   95 mEq/L
   134 mEq/L
   26.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2111-4-22**]  04:21 AM
                             [**2111-4-22**]  12:57 PM
                             [**2111-4-22**]  01:09 PM
                             [**2111-4-23**]  01:06 AM
                             [**2111-4-23**]  01:18 AM
                             [**2111-4-23**]  05:54 AM
                             [**2111-4-23**]  12:10 PM
                             [**2111-4-24**]  02:18 AM
                             [**2111-4-24**]  03:09 AM
                             [**2111-4-24**]  09:34 AM
   WBC
   9.4
   8.8
   Hct
   25.0
   26.4
   Plt
   203
   201
   Cr
   0.5
   0.5
   0.6
   TCO2
   34
   34
   34
   34
   35
   35
   34
   Glucose
   130
   193
   259
   Other labs: PT / PTT / INR:13.3/29.4/1.1, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:86/32, Alk Phos / T Bili:67/1.2,
   Differential-Neuts:90.0 %, Lymph:6.4 %, Mono:2.2 %, Eos:1.2 %, Lactic
   Acid:1.0 mmol/L, LDH:530 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   Respiratory failure:  looks great today, but low grade temps and
   ++secretions.  Will do mini-BAL and start Vanco/zosyn given that he is
   immunosuppressed
   and we will start cytoxan on him.
   [**Last Name (un) **] extubate after
   Alveolar hemorrhage:  On Prednisone 60mg, will start cytoxan today at
   250mg/day for 6 days, followed by 150mg/day of cytoxan
   ICU Care
   Nutrition:
   Ensure (Full) - [**2111-4-24**] 05:15 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2111-04-25 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Due to low grade fever and persistent copious thick secretions was
   started on on empiric Vanc and Zosyn
   - Mini-BAL was performed
   - Patient was being prepared for extubation and self-extubated prior to
   formal extubation
   - Was somewhat groggy with oxygen sats in high 80s and low 90s for
   several hours following extubation; however, these improved as mental
   status cleared throughout the day and night
   - Decided to defer cytoxan treatment until patient could reliably
   swallow on his own
   - Beside swallow test by nurse revealed patient tolerating sips of
   clear liquids
 INVASIVE VENTILATION - STOP [**2111-4-24**] 11:52 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2111-4-24**] 06:23 PM
   Vancomycin - [**2111-4-24**] 08:10 PM
   Piperacillin - [**2111-4-25**] 02:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-4-25**] 12:45 AM
   Other medications:
   Changes to medical and family history:  None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-25**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 74 (72 - 102) bpm
   BP: 125/67(90) {125/67(90) - 180/100(131)} mmHg
   RR: 18 (15 - 29) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: -4 (-4 - -4)mmHg
   Total In:
                                                                  2,308 mL
                                                                    174 mL
   PO:
                                                                     40 mL
   TF:
                                                                    679 mL
   IVF:
                                                                  1,059 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  5,310 mL
                                                                  1,710 mL
   Urine:
                                                                  5,310 mL
                                                                  1,710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,002 mL
                                                                 -1,536 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 676 (676 - 676) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   SpO2: 90%
   ABG: 7.48/42/74/29/6
   Ve: 11.3 L/min
   PaO2 / FiO2: 185
   Physical Examination
   GEN: No acute distress, lying comfortably in bed
   HEENT: PERRL, EOMI
   NECK: Supple, large circumference, right IJ in place
   PULM: Coarse anteriorly
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: Obese, BS+, soft
   EXT: No C/C/E
   NEURO: A&O x3, normal strength
   Labs / Radiology
   222 K/uL
   9.2 g/dL
   206 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.3 mEq/L
   11 mg/dL
   102 mEq/L
   139 mEq/L
   27.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2111-4-23**]  01:06 AM
                             [**2111-4-23**]  01:18 AM
                             [**2111-4-23**]  05:54 AM
                             [**2111-4-23**]  12:10 PM
                             [**2111-4-24**]  02:18 AM
                             [**2111-4-24**]  03:09 AM
                             [**2111-4-24**]  09:34 AM
                             [**2111-4-24**]  02:19 PM
                             [**2111-4-25**]  04:04 AM
                             [**2111-4-25**]  04:31 AM
   WBC
   9.4
   8.8
   9.2
   Hct
   25.0
   26.4
   27.0
   Plt
   [**Telephone/Fax (3) 5973**]
   Cr
   0.5
   0.6
   0.6
   TCO2
   34
   34
   35
   35
   34
   31
   32
   Glucose
   193
   259
   206
   Other labs: PT / PTT / INR:13.7/37.0/1.2, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:86/32, Alk Phos / T Bili:67/1.2,
   Differential-Neuts:92.1 %, Lymph:5.0 %, Mono:2.3 %, Eos:0.4 %, Lactic
   Acid:1.0 mmol/L, LDH:530 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
   57M with ILD on prednisone, Afib s/p recent ablation, CAD; transfer
   from OSH with dyspnea, hypoxia, and hemoptysis.
   # Hypoxemic respiratory failure / hemoptysis:
   Likely inter-related processes. Patient had acute change in respiratory
   status on evening of [**4-15**] when he had progressive hypoxia and tachypnea
   leading to an emergent intubation. Difficulty with oxygenation with
   standard vent modes led to patient being placed on APRV mode initially,
   with good response in oxygenation. Still with unknown cause of hypoxia
   and hemoptysis overall. Caridology consult assisted in ruling out
   pulmonary vein stenosis as cause of acute hemoptysis and hypoxia
   following atrial-fib ablation. TEE was negative for pulmonary vein
   stenosis. Bronchoscopy on [**4-16**] was consistent with diffuse alveolar
   hemorrhage. Due to concern for vasculitis, pulse dose steroids
   (methylprednisolone at 1 gram every 24 hours) were initiated on [**4-16**].
   CRP was elevated at 24. Hemoptysis has now stopped; HCT has been stable
   at 25-26. [**2111-4-19**] sputum with organisms on gram stain; however, no
   culture data at this time. ANCA, [**Doctor First Name **], and anti-GBM are negative;
   however, with elevated CRP and encouraging response to steroids.
   vasculitis is the leading diagnosis at this time. Respiratory viral
   screen is negative.  Due to sedation management issues, was switched
   from fent/midaz to propofol drip on [**2111-4-23**], and is now off after
   self-extubation yesterday. Patient is still groggy with tenuous
   respiratory status ~90% O2 sat.
   - Continue 60 mg prednisone daily
   - Initiate cyclophosphamide for presumed vasculitis at dose of 250 mg
   daily for 6 days followed by 150 mg daily
   - Will need weekly CBC with diff and daily LFTs to monitor of toxicity
   of cyclophosphamide while starting drug
   - f/u Mini-BAL culture
   - cont vanc and zosyn for now, will discontinue if nothing grows in BAL
   culture
   - Continue to trend HCT
   - Maintain active type and screen and transfuse for HCT less than 21
   - Hold aspirin and warfarin
   - set up CPAP at night (patient can use his own CPAP machine if family
   can bring from home).
   # Fever:
   Low grade fevers in past couple of days, though afebrile in last 24
   hours. Sputum has been copious and thick; however, culture data only
   consistent with oropharyngeal flora. Repeat sputum on [**4-23**] had gram
   stain of oropharyngeal flora, mini-BAL results pending.
   - cont vanc/zosyn for now, will discontinue if mini-BAL results are
   negative.
   - f/u Mini-BAL
   - follow-up pending blood cultures
   # Afib:
   s/p recent ablation.  Now in sinus rhythm.
   - Continue sotalol
   - Hold warfarin
   - Hold atenolol due to periodic hypotension
   # Coronary artery disease:
   Ruled out for MI at presentation.
   - Continue statin and lisinopril
   - Hold home aspirin
   - Hold home atenolol due to hypotension after admission
   # Hypertension / Hypotension:
   Baseline BP better controlled with lisinopril added. Will watch for
   hypertension following decrease and cessation of sedation once
   extubated.
   - Continue lisinopril 5 mg
   - Consider adding on metoprolol (atenolol has been on hold) if
   pressures elevated once sedation comes off
   # DM:
   Hyperglycemia in setting of diabetes and steroids. Had high FSBS in
   early AM, perhaps related to prednisone dose at night. Will increase
   night sliding scale.
   - Glargine insulin twice daily as well as humalog sliding scale, can
   adjust as patient begins to eat
   - Hold metformin
   # Thrush:
   Likely related to high dose steroids.
   - Oral nystatin as needed
   Will attempt to obtain peripheral access today so right IJ can be
   discontinued.
   ICU Care
   Nutrition:
   Pending swallow eval today
   Glycemic Control:  insulin sliding scale
   Lines:
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: in ICU pending improvement in respiratory status

2111-04-26 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Appeared tired all day and desaturated with movement to and from
   chair. Placed on nasal cannula and face mask.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2111-4-25**] 02:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2111-4-25**] 10:30 AM
   Vancomycin - [**2111-4-25**] 08:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2111-4-25**] 08:17 AM
   Heparin Sodium (Prophylaxis) - [**2111-4-25**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-26**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 76 (66 - 87) bpm
   BP: 90/45(55) {90/45(55) - 108/58(71)} mmHg
   RR: 27 (19 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,200 mL
                                                                     77 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    840 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  2,530 mL
                                                                    600 mL
   Urine:
                                                                  2,530 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,330 mL
                                                                   -523 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.49/36/84.[**Numeric Identifier 117**]/26/4
   PaO2 / FiO2: 210
   Physical Examination
   GEN: No acute distress, lying comfortably in bed
   HEENT: PERRL, EOMI
   NECK: Supple, large circumference, right IJ in place
   PULM: Coarse anteriorly
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: Obese, BS+, soft
   EXT: No C/C/E
   NEURO: A&O x3, normal strength
   Labs / Radiology
   220 K/uL
   9.1 g/dL
   183 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.9 mEq/L
   13 mg/dL
   102 mEq/L
   137 mEq/L
   26.7 %
   9.1 K/uL
        [image002.jpg]
                             [**2111-4-24**]  03:09 AM
                             [**2111-4-24**]  09:34 AM
                             [**2111-4-24**]  02:19 PM
                             [**2111-4-25**]  04:04 AM
                             [**2111-4-25**]  04:31 AM
                             [**2111-4-25**]  12:02 PM
                             [**2111-4-25**]  02:22 PM
                             [**2111-4-25**]  02:52 PM
                             [**2111-4-26**]  02:44 AM
                             [**2111-4-26**]  03:28 AM
   WBC
   9.2
   9.1
   Hct
   27.0
   26.7
   Plt
   222
   220
   Cr
   0.6
   0.6
   TCO2
   35
   34
   31
   32
   28
   32
   34
   28
   Glucose
   206
   183
   Other labs: PT / PTT / INR:13.6/29.0/1.2, CK / CKMB /
   Troponin-T:32//0.11, ALT / AST:86/32, Alk Phos / T Bili:67/1.2,
   Differential-Neuts:92.1 %, Lymph:5.0 %, Mono:2.3 %, Eos:0.4 %, Lactic
   Acid:1.0 mmol/L, LDH:530 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   57M with ILD on prednisone, Afib s/p recent ablation, CAD; transfer
   from OSH with dyspnea, hypoxia, and hemoptysis.
   # Hypoxemic respiratory failure / hemoptysis:
   Likely inter-related processes. Patient had acute change in respiratory
   status on evening of [**4-15**] when he had progressive hypoxia and tachypnea
   leading to an emergent intubation. Difficulty with oxygenation with
   standard vent modes led to patient being placed on APRV mode initially,
   with good response in oxygenation. Still with unknown cause of hypoxia
   and hemoptysis overall. Caridology consult assisted in ruling out
   pulmonary vein stenosis as cause of acute hemoptysis and hypoxia
   following atrial-fib ablation. TEE was negative for pulmonary vein
   stenosis. Bronchoscopy on [**4-16**] was consistent with diffuse alveolar
   hemorrhage. Due to concern for vasculitis, pulse dose steroids
   (methylprednisolone at 1 gram every 24 hours) were initiated on [**4-16**].
   CRP was elevated at 24. Hemoptysis has now stopped; HCT has been stable
   at 25-26. [**2111-4-19**] sputum with organisms on gram stain; however, no
   culture data at this time. ANCA, [**Doctor First Name **], and anti-GBM are negative;
   however, with elevated CRP and encouraging response to steroids.
   vasculitis is the leading diagnosis at this time. Respiratory viral
   screen is negative.  Due to sedation management issues, was switched
   from fent/midaz to propofol drip on [**2111-4-23**], and is now off after
   self-extubation yesterday. Patient is still groggy with tenuous
   respiratory status ~90% O2 sat.
   - Continue 60 mg prednisone daily
   - Initiate cyclophosphamide for presumed vasculitis at dose of 250 mg
   daily for 6 days followed by 150 mg daily
   - Will need weekly CBC with diff and daily LFTs to monitor of toxicity
   of cyclophosphamide while starting drug
   - f/u Mini-BAL culture
   - cont vanc and zosyn for now, will discontinue if nothing grows in BAL
   culture
   - Continue to trend HCT
   - Maintain active type and screen and transfuse for HCT less than 21
   - Hold aspirin and warfarin
   - set up CPAP at night (patient can use his own CPAP machine if family
   can bring from home).
   # Fever:
   Low grade fevers in past couple of days, though afebrile in last 24
   hours. Sputum has been copious and thick; however, culture data only
   consistent with oropharyngeal flora. Repeat sputum on [**4-23**] had gram
   stain of oropharyngeal flora, mini-BAL results pending.
   - cont vanc/zosyn for now, will discontinue if mini-BAL results are
   negative.
   - f/u Mini-BAL
   - follow-up pending blood cultures
   # Afib:
   s/p recent ablation.  Now in sinus rhythm.
   - Continue sotalol
   - Hold warfarin
   - Hold atenolol due to periodic hypotension
   # Coronary artery disease:
   Ruled out for MI at presentation.
   - Continue statin and lisinopril
   - Hold home aspirin
   - Hold home atenolol due to hypotension after admission
   # Hypertension / Hypotension:
   Baseline BP better controlled with lisinopril added. Will watch for
   hypertension following decrease and cessation of sedation once
   extubated.
   - Continue lisinopril 5 mg
   - Consider adding on metoprolol (atenolol has been on hold) if
   pressures elevated once sedation comes off
   # DM:
   Hyperglycemia in setting of diabetes and steroids. Had high FSBS in
   early AM, perhaps related to prednisone dose at night. Will increase
   night sliding scale.
   - Glargine insulin twice daily as well as humalog sliding scale, can
   adjust as patient begins to eat
   - Hold metformin
   # Thrush:
   Likely related to high dose steroids.
   - Oral nystatin as needed
   Will attempt to obtain peripheral access today so right IJ can be
   discontinued.
   ICU Care
   Nutrition:
   Pending swallow eval today
   Glycemic Control:  insulin sliding scale
   Lines: R IJ, a line
   Arterial Line - [**2111-4-16**] 01:45 AM
   Multi Lumen - [**2111-4-16**] 05:45 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:
   Code status: Full code
   Disposition: in ICU pending improvement in respiratory status